2139-01-15 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2139-1-14**] 06:25 PM
   - bronchoscopy performed; bronchial wash performed; cultures/afb sent
   - maintained on facemask for comfort; satting 98% on 6L.
   tachypnea/respiratory distress improved
   - ID consult called for actinomyces from culture from [**Hospital1 966**] [**7-/2138**];
   started on penicillin 2 million units Q4H
   - levo/clinda stopped
   - NPO after MN for IP to consider bronch for BAL and possible biopsy if
   possible
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-1-15**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-15**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 86 (74 - 87) bpm
   BP: 87/42(53) {87/42(53) - 132/77(89)} mmHg
   RR: 26 (19 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    430 mL
                                                                    200 mL
   PO:
                                                                    380 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    250 mL
   Urine:
                                                                    350 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     80 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, mild
   respiratory distress
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: R>L, Wheezes : R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): A/O x3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   299 K/uL
   11.1 g/dL
   100 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   14 mg/dL
   98 mEq/L
   140 mEq/L
   34.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
   WBC
   7.4
   Hct
   34.6
   Plt
   299
   Cr
   0.9
   Glucose
   100
   Other labs: PT / PTT / INR:14.9/35.5/1.3, Ca++:8.9 mg/dL, Mg++:1.6
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   64 yo male with h/o lung ca s/p left pneumonectomy, DM2, HTN, here with
   worsening dyspnea, low grade temps, and productive cough, transferred
   to the MICU for tachypnea.
   # Dypsnea/hypoxia: patient has h/o lung ca, with pneumonectomy, though
   not clear what type.  he had serial imaging subsequently without any
   recurrence, though this summer, CT showed evidence of hilar mass.  His
   thoracic surgeon performed biopsy, but no malignancy was found, and
   they did not feel patient would tolerate VATS.  He had a sputum cx from
   [**Hospital1 966**] which showed actinomyces, which he was not treated for due to the
   fact he was lost to follow up.  His new dyspnea/hypoxia may be further
   worsening of this underlying actinomyces infection, or another
   superinfection on top of that.  Malignancy is also possible, though
   seems less likely.
   - consider bronchoscopy for BAL (culture, cytology, AFB, actinomyces)
   - cont levoflox/clindamycin for treatment of CAP vs aspiration PNA;
   this does provide some coverage for actinomyces though likely not the
   most ideal coverage
   - ID consult for consideration of need for repeat BAL, possibly to
   switch agents (PCN x [**4-14**] wks vs CTX)
   - consider thoracics consult
   - cont high flow O2; no need for BiPap at this time
   - can ABG if patient becomes more somnolent and concern for
   hypercarbia, though initial gas is likely his baseline
   - nebulzier PRN
   - check sputum cx
   # DM2: ISS
   # HTN: cont metoprolol and lisinopril
 PNEUMONIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-1-14**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-01-15 09:42:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2139-1-14**] 06:25 PM
ID Consult
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-15**] 08:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-1-15**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**1-10**] Minimal
   Pain location: dyspnea
   Flowsheet Data as of  [**2139-1-15**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98.1
   HR: 85 (74 - 87) bpm
   BP: 127/70(84) {87/42(53) - 132/77(89)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    430 mL
                                                                    252 mL
   PO:
                                                                    380 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    330 mL
   Urine:
                                                                    350 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     80 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : Right, Diminished:
   Right, Absent : Left, Rhonchorous: Right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   299 K/uL
   100 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   14 mg/dL
   98 mEq/L
   140 mEq/L
   34.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
   WBC
   7.4
   Hct
   34.6
   Plt
   299
   Cr
   0.9
   Glucose
   100
   Other labs: PT / PTT / INR:14.9/35.5/1.3, Ca++:8.9 mg/dL, Mg++:1.6
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   64M h/o Lt pneumonectomy in [**2125**] for lung CA @ [**Hospital1 475**], recent workup in
   [**7-17**] of  Rt sided lung mass with finding of positive actinomyces p/w
   progressive DOE, low grade fevers, productive cough
   Rt chest mass
   -mediastinoscopy negative for malignancy at [**Hospital1 966**] in
09.  Cx
   subsequently grew actinomyces
   -presentation c/w actinomycosis though would be nice to get
   confirmation prior to committing to extended treatment
   -Appreciate ID consult cx recs and treatment with PCN
   -FOB yesterday - wall suction too weak to perform BAL.  Physical plant
   services called to repair. Able to send bronchial washings but unable
   to inspect airways, or perform BAL.
   -Needs FOB/BAL airway inspection.  Mass looks like it might erode into
   airways - if so could perform brushing as well.
    Hypoxia/respiratory distress
   -improved from admission with bronchodilators
   -wean FiO2 as tolerated
   -secretions/plugging might be playing a role
 especially given weak
   cough and single lung
    Hypertension
   DM2
   -RISS, FSG
    Remainder of plan as detailed in note above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-1-14**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2139-01-17 07:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure / intubation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Briefly, this is a 64 yo male with h/o lung ca s/p left pneumonectomy
   in [**2125**], and more recently had workup of recurrent lung mass on R side
   at [**Hospital1 966**] by Dr. [**Last Name (STitle) 10257**] including medisastinoscopy and paraceliac LN
   biopsy which did not show any malignancy.  This was all done in [**7-17**].
   More recently, the patient has had worsening DOE, and he presented to
   the ED on [**2139-1-12**] for productive cough, low grade temps, worsening
   dyspnea, and tachypnea.
   .
   While on the floor, the patient was treated with clindamycin and
   levofloxacin for probably pneumonia vs aspiration pneumonia.  A repeat
   chest CT here showed right sided hilar cavitating mass, and there was
   some evidence of tree and [**Male First Name (un) **] opacities of the right lung.  While on
   the floor, the patient was having increasing tachypnea to the 30s, and
   appeared uncomfortable.  The team was called in to evaluate him for his
   tachypnea, and then requested transfer to the MICU given his
   respiratory status.
   .
   In the MICU, he had a bronch that was limited because of suction
   equipment failure per report but washings were taken.  Antibiotics were
   also changed to penicillin per ID.  He was satting well on 6L
   post-bronch and went back to the floor on [**2139-1-15**].  This morning, he
   underwent repeat bronch by IP bronch.  Findings were significant for
   near occlusion of the RUL bronchus by an airway mass and endobronchial
   biopsy and TBNA were done. He desatted to 80% and was not extubated
   because of his tenuous respiratory status.  Transfer to the MICU was
   then requested.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2139-1-16**] 01:11 PM
 PICC LINE - START [**2139-1-16**] 01:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-17**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   levophed off
   fent gtt @ 20
   ISS
   Singulair
   PCN 2mill q4Hr
   lipitor
   atrovent qid, alb qid
   HypoTN improved with IVF. Abx broadened. Ventilator switched to PSV
   [**12-13**], 50%. RSBI 140. This AM, SBP fell to 80
s with worsening UOP,
   rec
d 3L IVF which did not improve UOP. ABG 7.47/57/74 on AC
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-17**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 91 (71 - 93) bpm
   BP: 98/55(65) {62/38(44) - 124/69(83)} mmHg
   RR: 10 (7 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,731 mL
                                                                  2,622 mL
   PO:
             TF:
   IVF:
                                                                  1,421 mL
                                                                  2,622 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    180 mL
   Urine:
                                                                    345 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,386 mL
                                                                  2,442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 31 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/56/320/32/10
   Ve: 7.7 L/min
   PaO2 / FiO2: 640
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   237 K/uL
   84 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   15 mg/dL
   102 mEq/L
   140 mEq/L
   32.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
   WBC
   7.4
   7.1
   Hct
   34.6
   32.0
   Plt
   299
   237
   Cr
   0.9
   0.7
   TCO2
   39
   38
   Glucose
   100
   84
   Other labs: PT / PTT / INR:14.0/34.1/1.2, Lactic Acid:1.6 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   64M (h/o lung ca s/p left pneumonectomy, DM2, HTN) initially admitted
   with worsening dyspnea, low grade temps, and productive cough. Pt
   transferred to the MICU after hypoxemic and hypercapnic respiratory
   failure in the setting of bronchoscopy.
   .
   #Hypoxemic and hypercapnic respiratory failure: Hypoxemia was improved
   and was likely [**2-10**] bronchoscopy BAL and other procedures. He continues
   to require ventilatory support, with RSBI 140 and tachypnea to 33 on
   PSV 12/5 (although tachypnea to 30 at new baseline on floor while
   non-inutbated). CXR concerning for partial collapse of RUL bronchus and
   cannot exclude hemorrhage. No clear evidence of pulmonary edema but
   cannot exclude.
   [] consider bronchoscopy to evaluate for collapse, pulmonary toliet and
   evaluate for hemorrhage.
   [] Down-titrate PSV as tolerated. Down-titrate FiO2 to maintain sat >
   93%
   - fluid management as below. defer BNP but consider if fails to improve
   #Hypotension:  Etiology is unclear. Possible contributions includes
   hypovolume initially (improvement with fluid repletion). Heart failure
   possible (EF 55% in [**2131**]). Sepsis less likely given no s/sx of
   infection
   [] MAPs > 60 with levophed
   [] IVF bolus now
   [] add on AM cortisol
   [] TTE
   [] Check CVP
   - Central venous sat not obtainable via PICC
   - would not broaden antibiotics at this time
   #R hilar and RLL mass: DDx includes infection (in particular
   actinomyces (BAL +ve in past), but fungal possible), and malignancy
   cannot be excluded. Auto-immune (e.g. vasculitis) unlikely.
   [] continue PCN x [**4-14**] wks (day 1 = [**2139-1-15**])
   [] awaiting endobronchial bx, TBNA bx, and culture results
   [] [**Month (only) 11**] need re-evaluation for RUL stenting in future pending dx of
   mass.
   #STABLE:
   -DM2: ISS
   -h/o HTN:  hold metoprolol and lisinopril
   ---.
   # FEN: no IVFs / replete lytes prn / cardiac diet
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL
   # CONTACT:  [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Lines:
   18 Gauge - [**2139-1-16**] 01:35 PM
   PICC Line - [**2139-1-16**] 01:45 PM
   Total time spent: 30 mins
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with Dr. [**First Name (STitle) 335**]
   for the key portions of the services provided. I agree with the note
   above, including the assessment and plan. I would emphasize and add the
   following points:
   64 y/o with lung ca s/p pneumonectomy, admitted after bronchoscopy for
   bx of lung mass.
   Events: CXR with R infiltrate and vol loss.  Hypotensive now on
   vasopressors.
   VS and exam notable for T98.6, P90s BP 90/50-120/70.  RR now 30 on
   PSV8/5, sat 98%.
   I/O +2L since this AM, U/O ~180cc.
   Labs with stable CBC, Chem-7 with bicarb of 32.
   CXR reviewed
 vol loss in RUL.
   Agree with plan to continue antibiotics, suctioning, consider bronch if
   atelectasis does improve, though resp status currently at least stable,
   perhaps improved.
   Hypotension
 ?etiology, checking echo, IVF bolus PRN,
   ?hyperinflation.  Broaden antibiotics if persists or if fever / WBC.
   Evaluation of hilar mass awaiting bx.
   Remainder of plan as above.
   Pt is critically ill. CC time 35 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2139-1-17**] 14:23 ------

2139-01-18 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - received approx 2.5L in afternoon/overnight for borderline SBPs in
   high 80s/low 90s
   - UOP was low for 24 hrs (15-25 cc/hr)
   - ECHO showed significant RV dysfunction due to high PA pressures; no
   LV dysfunction or effusion noted
   - switched to AC mode overnight given tachypnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-18**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-18**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 93 (87 - 106) bpm
   BP: 91/54(62) {83/46(54) - 118/68(78)} mmHg
   RR: 20 (20 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,537 mL
                                                                  1,614 mL
   PO:
             TF:
   IVF:
                                                                  3,442 mL
                                                                  1,614 mL
   Blood products:
   Total out:
                                                                    505 mL
                                                                    230 mL
   Urine:
                                                                    505 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,032 mL
                                                                  1,384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 263 (263 - 312) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 142
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/62/76.[**Numeric Identifier 433**]/32/2
   Ve: 7.6 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   10.0 g/dL
   75 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.5 mEq/L
   17 mg/dL
   103 mEq/L
   142 mEq/L
   30.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
   WBC
   7.4
   7.1
   7.2
   Hct
   34.6
   32.0
   32.8
   30.7
   Plt
   299
   237
   246
   Cr
   0.9
   0.7
   0.7
   TCO2
   39
   38
   33
   Glucose
   100
   84
   75
   Other labs: PT / PTT / INR:14.0/34.1/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR:  Improved aeration of right upper lobe compared to the
   prior exam, with
   persisting perihilar and right lower lobe opacities. Dense
   opacification of
   the left hemithorax is unchanged.
   .
   TTE:  The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thickness, cavity size and regional/global systolic
   function are normal (LVEF >55%). The right ventricular cavity is
   moderately dilated with depressed free wall contractility. There is
   abnormal systolic septal motion/position consistent with right
   ventricular pressure overload. The aortic root is mildly dilated at the
   sinus level. The aortic valve leaflets are moderately thickened. There
   is mild aortic valve stenosis (valve area 1.2-1.9cm2). No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. There is severe pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   IMPRESSION: Right ventricular cavity enlargement with depressed free
   wall motion. Severe pulmonary artery systolic hypertension. Mild aortic
   valve stenosis. Preserved global left ventricular systolic function. No
   pericardial effusion.
   Microbiology: Endobroncial mass path and all cultures pending
   Assessment and Plan
   64 yo male with h/o lung ca s/p left pneumonectomy, DM2, HTN, here with
   worsening dyspnea, low grade temps, and productive cough, transferred
   to the MICU after hypoxic respiratory failure in the setting of
   bronchospy.
   .
   # Hypoxic respiratory failure:  intubated in setting of bronchoscopy,
   biopsy, and desaturation.  Has partial occlusion of RUL bronchus,
   likely from metastatic versus de [**Last Name (un) 5275**] lung cancer and known actinomyces
   infection.  DDx also includes interoperative PE though unlikely.
   Patient has h/o lung ca, with pneumonectomy, though not clear what
   type.  he had serial imaging subsequently without any recurrence,
   though this summer, CT showed evidence of hilar mass.  His thoracic
   surgeon performed biopsy, but no malignancy was found, and they did not
   feel patient would tolerate VATS.  He had a sputum cx from [**Hospital1 966**] which
   showed actinomyces, which he was not treated for due to the fact he was
   lost to follow up.  His new dyspnea/hypoxia multifactorial from
   actinomyces infection and likely lung cancer.
   - obtain cxr on arrival to MICU
   - ABG on current settings
   - weane FiO2
   - likely keep intubated overnight
   - continue PCN x [**4-14**] wks (day 1 = [**2139-1-15**])
   - awaiting biopsy, FNA, and culture results
   - will likely need RUL stent in future
   - nebulzier PRN
   .
   # Hypotension:  Likely in setting of vagal response to intubation and
   absence of sedation.  Hypovolemia and sepsis also possible, though
   anticipate will improve rapidly.
   - start levophed
   - IVF bolus x 1 L
   - MAPs > 60
   - transduce CVP off PICC if possible
   - would not broaden antibiotics at this time
   .
   # DM2:
   - ISS
   .
   # HTN:
   - restart metoprolol and lisinopril once BPs stabilize post-procedure
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet
   # PPX: hold heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL
   # CONTACT:  [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-1-16**] 01:35 PM
   PICC Line - [**2139-1-16**] 01:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-18 08:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: Please see admit note from [**2139-1-12**] and pulmonary consult note on
   [**2139-1-14**] for full details.  Briefly, this is a 64 yo male with h/o lung
   ca s/p left pneumonectomy in [**2125**], and more recently had workup of
   recurrent lung mass on R side at [**Hospital1 966**] by Dr. [**Last Name (STitle) 10257**] including
   medisastinoscopy and paraceliac LN biopsy which did not show any
   malignancy.  This was all done in [**7-17**].  More recently, the patient has
   had worsening DOE, and he presented to the ED on [**2139-1-12**] for productive
   cough, low grade temps, worsening dyspnea, and tachypnea.
   .
   While on the floor, the patient was treated with clindamycin and
   levofloxacin for probably pneumonia vs aspiration pneumonia.  A repeat
   chest CT here showed right sided hilar cavitating mass, and there was
   some evidence of tree and [**Male First Name (un) **] opacities of the right lung.  While on
   the floor, the patient was having increasing tachypnea to the 30s, and
   appeared uncomfortable.  The team was called in to evaluate him for his
   tachypnea, and then requested transfer to the MICU given his
   respiratory status.
   .
   In the MICU, he had a bronch that was limited because of suction
   equipment failure per report but washings were taken.  Antibiotics were
   also changed to penicillin per ID.  He was satting well on 6L
   post-bronch and went back to the floor on [**2139-1-15**].  This morning, he
   underwent repeat bronch by IP bronch.  Findings were significant for
   near occlusion of the RUL bronchus by an airway mass and endobronchial
   biopsy and transbronchial FNA were done.  He desatted to 80% and was
   not extubated because of his tenuous respiratory status.  Transfer to
   the MICU was then requested.
   24 Hour Events:
   Low UOP mildly improved after 2.5L NS. Weaned off pressors. [**Date Range **] showed
   significant RV dysfunction. Switched to AC overnight for tachypnea.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-18**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   PCN q4h
   singulair
   alb / atrovent neb
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-18**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 93 (87 - 106) bpm
   BP: 91/54(62) {83/46(54) - 118/68(78)} mmHg
   RR: 20 (20 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,537 mL
                                                                  1,614 mL
   PO:
             TF:
   IVF:
                                                                  3,442 mL
                                                                  1,614 mL
   Blood products:
   Total out:
                                                                    505 mL
                                                                    230 mL
   Urine:
                                                                    505 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,032 mL
                                                                  1,384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 263 (263 - 312) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 142
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/62/76.[**Numeric Identifier 433**]/32/2
   Ve: 7.6 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GEN: Alert and oriented. Endorses comfortable, denies SOB
   HEENT: intubated
   Neck: Difficult to assess JVP
   Lung: L-absent breath sounds, R-decreased breath sounds and rhonchi, no
   wheeze
   Cor: RRR +?sys murmur, no r/g
   Abd: soft NT +Bs
   Ext: no c/c/e
   Peripheral Vascular: 2+ bilateral p.t.
   Skin:  no lesions
   Neurologic: non-focal
   Labs / Radiology
   10.0 g/dL
   246 K/uL
   75 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.5 mEq/L
   17 mg/dL
   103 mEq/L
   142 mEq/L
   30.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
   WBC
   7.4
   7.1
   7.2
   Hct
   34.6
   32.0
   32.8
   30.7
   Plt
   299
   237
   246
   Cr
   0.9
   0.7
   0.7
   TCO2
   39
   38
   33
   Glucose
   100
   84
   75
   Other labs: PT / PTT / INR:14.0/34.1/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   ABG: 7.31 /62 /76
   CXR: [**2139-1-18**]: RUL again opacified with prominent fissue, not as
   prominent as yesterday AM CXR. Differential includes partial collapses
   [**2-10**] mucus plug in already partially obstructed bronchus versus edema.
   Unlikely bleeding given improvement on [**2139-1-18**] PM film. RLL has
   increased opacification.
   [**Date Range **]: LVEF >55%, RV mod dilated, depressed function. 1+MR, PASP 90
   Micro: Sputum / BAL ngtd
   Assessment and Plan
   64M (h/o lung ca s/p left pneumonectomy, DM2, HTN) initially admitted
   with worsening dyspnea, low grade temps, and productive cough. Pt
   transferred to the MICU after hypoxemic and hypercapnic respiratory
   failure in the setting of bronchoscopy.
   .
   #Hypoxemic and hypercapnic respiratory failure: Hypoxemia was improved
   and was likely [**2-10**] bronchoscopy BAL and other procedures. He continues
   to require ventilatory support, with RSBI 140 and tachypnea to 40 on
   PSV (tachypnea 30 at new baseline on floor while non-intubated). CXR
   concerning for recurrent partial collapse of RUL bronchus. RLL
   concerning  for pulmonary edema most likely, infection possible but
   less likely.
   --Pt has intermittent RUL collapse. Will defer bronchoscopy for
   pulmonary toilet since RUL has intermittently improved and worsened, if
   likely re-plugging even after bronch. The patient
s reversible causes
   of respiratory failure is worsening RLL process of likely pulmonary
   edema (versus infection). However, given patient
s marginal blood
   pressure (see below), we will have difficulty attempting empiric
   diuresis.
   - cont pulmonary toilet / suction / nebs
   - f/u fluid management and chest CTA (see below)
   #Systemic Hypotension:  LV function preserved but there is RV failure
   with marked pulmonary hypertension. Chronicity is unclear (no recent
   [**Name (NI) **]).
   --Etiology of hypotension includes RV failure most likely, with
   contribution from positive pressure ventilation. Sepsis less likely.
   See also pulmonary hypertension below.
   [] goal MAPs > 60, UOP > 30. IVF bolus trial as needed (HD stable now).
   - Central venous sat not obtainable via PICC
   - Would not broaden antibiotics at this time
   #Pulmonary hypertension: Possible contributions include pulmonary
   artery compression from lung masses (also s/p L pneumonectomy),
   post-capillary hypertension (although no evidence of LV failure on [**Name (NI) **],
   pt
s CXR may be c/w pulmonary edema). Also chronic or acute
   thromboembolic disease is possible.
   [] chest CTA
   - Defer Swan given unlikely to change management.
   #R hilar and RLL mass: DDx includes infection (in particular
   actinomyces (BAL +ve in past), but fungal possible), and malignancy
   cannot be excluded. Auto-immune (e.g. vasculitis) unlikely.
   [] continue PCN x [**4-14**] wks (day 1 = [**2139-1-15**])
   [] awaiting endobronchial bx, TBNA bx, and culture results
   [] [**Month (only) 11**] need re-evaluation for RUL stenting in future pending dx of
   mass.
   #STABLE:
   -DM2: ISS
   -h/o HTN:  hold metoprolol and lisinopril
   ---.
   # FEN: no IVFs / replete lytes prn / cardiac diet
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL
   # CONTACT:  [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Lines:
   18 Gauge - [**2139-1-16**] 01:35 PM
   PICC Line - [**2139-1-16**] 01:45 PM
   Total time spent: 30 mins
   ------ Protected Section ------
   MICU ATTENDING
   Blood pressure still on low side. [**Year (4 digits) **] showed dilated RV with evidence
   of pressure overload (estimated PAP near 90).  Hypoxemia has improved.
   Received substantial volume resuscitation yesterday to enable weaning
   of vasopressors. CTA shows right pleural effusion and infiltrate in
   RUL. Vascular pattern to RLL does not seem normal; awaiting formal
   report.  Patient has been started on antibiotics.
   On exam, patient is intubated and awake. Denies dyspnea on ventilator.
   Chest is notable for diffuse rhonchi on right.  Heart sounds are
   normal. No gallop or murmur. Abdomen soft, nontencer. Extremities warm
   and well perfused.
   IMP:
   Respiratory failure
   Pneumonia
   Pleural Effusion
   Pulmonary hypertension
   Suspect respiratory failure  due to combination of increased mucus
   production and interstitial edema. The RV overload may be creating a
   condition of diastolic dysfunction in the LV. Thus, achieving a gradual
   negative fluid balance may assist in optimizing cardiac and pulmonary
   function. Try to achieve 0.5 L negative fluid balance today with
   dobutamine and, if necessary, lasix.
   Continue antibiotics.
   Time 30 mins/critical care
   ------ Protected Section Addendum Entered By:[**Name (NI) 161**] [**Last Name (NamePattern1) **], MD
   on:[**2139-1-18**] 16:02 ------

2139-01-19 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tachypneic to 40s/50s on PS with ABG 7.30/67/72, switched back to AC
   and became much more comfortably.  tachycardia and tachypnea resolved
   - CTA without PE, but showed multifocal opacities c/w ? PNA and new
   right pleural effusion.
   - started on ABX for VAP
   - on and off dobutamine to help with diuresis; minimal response to
   10/20 mg IV lasix.  Given 40 mg lasix with goal -500cc
   - self extubated at 8 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-19**] 04:00 AM
   Vancomycin - [**2139-1-19**] 04:30 AM
   Ciprofloxacin - [**2139-1-19**] 05:00 AM
   Cefipime - [**2139-1-19**] 06:39 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-1-19**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-19**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 89 (88 - 124) bpm
   BP: 89/54(62) {76/45(55) - 115/74(80)} mmHg
   RR: 20 (18 - 46) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,032 mL
                                                                    646 mL
   PO:
             TF:
   IVF:
                                                                  3,822 mL
                                                                    646 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    700 mL
   Urine:
                                                                    855 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,177 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 251 (251 - 285) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 190
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/67/72/35/5
   Ve: 9.4 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   9.7 g/dL
   95 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   16 mg/dL
   100 mEq/L
   142 mEq/L
   30.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
   WBC
   7.4
   7.1
   7.2
   7.7
   Hct
   34.6
   32.0
   32.8
   30.7
   30.3
   Plt
   299
   237
   246
   267
   Cr
   0.9
   0.7
   0.7
   0.7
   TCO2
   39
   38
   33
   36
   Glucose
   100
   84
   75
   95
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   64 yo male with h/o lung ca s/p left pneumonectomy, DM2, HTN, here with
   worsening dyspnea, low grade temps, and productive cough, transferred
   to the MICU after hypoxic respiratory failure in the setting of
   bronchospy now with CTA concerning for multifocal PNA, without evidence
   of PE
   # Hypoxic respiratory failure:  intubated in setting of bronchoscopy,
   biopsy, and desaturation.  Has partial occlusion of RUL bronchus,
   likely from metastatic versus de [**Last Name (un) 5275**] lung cancer and known actinomyces
   infection.  Barriers to extubation likely were secretions and possible
   fluid overload.  There was no evidence of PE on CTA yesterday.
   Attempted diuresis yesterday with dobutamine for BP control, but
   patient was essentially even over 24 hrs.  Patient self extubated this
   AM.
   - will try to keep extubated today, but if patient appears to tire out,
   will reintubate.
   - recheck ABG this AM after extubation
   - continue PCN x [**4-14**] wks (day 1 = [**2139-1-15**])
   - awaiting biopsy, FNA, and culture results
   - will likely need RUL stent in future
   - nebulizer standing and PRN
   - treat for VAP with vanc/cefepime/cipro; recheck sputum cx.  Will give
   8 day course (day 1= [**2139-1-18**])
   - goal I/O -500 to -1L today
   - will d/w IP regarding possible stenting of bronchus intermedius
   # Hypotension:  Has RV dysfunction and PA hypertension and known
   compression of pulmonary arteries from lymphadenopathy.  Hypovolemia
   and sepsis may also be contributing.  No evidence of PE to cause RV
   overload.
   - attempt diuresis with lasix gtt today for goal -500 to -1L;  can use
   dobutamine for BP control to maintain MAP>60
   - cont treatment for VAP as above which may also contribute to
   # DM2:
   - ISS
   # HTN:
   - restart metoprolol and lisinopril once BPs stabilize
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-18**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-19 10:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Self-extubated this morning
   -dobutamine started
   -IV lasix
   -minimal progress in diuresing even with both of above
   -discussed level of agressiveness w/ pt during rounds
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-19**] 04:00 AM
   Vancomycin - [**2139-1-19**] 04:30 AM
   Ciprofloxacin - [**2139-1-19**] 05:00 AM
   Cefipime - [**2139-1-19**] 06:39 AM
   Infusions:
   Dobutamine - 1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2139-1-19**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-19**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 123 (89 - 127) bpm
   BP: 110/64(74) {85/45(56) - 115/70(80)} mmHg
   RR: 38 (18 - 46) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,032 mL
                                                                    663 mL
   PO:
             TF:
   IVF:
                                                                  3,822 mL
                                                                    663 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                  1,040 mL
   Urine:
                                                                    855 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,177 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 251 (251 - 251) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 190
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.32/67/72/35/5
   Ve: 9.4 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   267 K/uL
   95 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   16 mg/dL
   100 mEq/L
   142 mEq/L
   30.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
   WBC
   7.4
   7.1
   7.2
   7.7
   Hct
   34.6
   32.0
   32.8
   30.7
   30.3
   Plt
   299
   237
   246
   267
   Cr
   0.9
   0.7
   0.7
   0.7
   TCO2
   39
   38
   33
   36
   Glucose
   100
   84
   75
   95
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   Airway management
   -self extubated this morning
   -s/p Lt pneumonectomy
   -RUL takeoff obliterated per report
   -bronchus intermedius narrowed by mass
   -significant WOB appears to be tiring.  Needs to be reintubated.
   -per IP likely will require bronchial stent at some point
   Rt hilar mass
   -Bx revealed only necrotic tissue at [**Hospital1 966**]
   -endobronchial appearance very c/w lung ca per IP.
   -grew out actinomyces from [**Hospital1 966**] procedure.  Is currently on PCN for
   presumed actinomcyosis.
   -path from TBNA pending
    Fluid overload
   -diurese as able
   -concentrate meds
   Level of care
   -discussed with pt who is AAOx3
   -open to intubation as long as reversible/treatable
   -if mass is lung cancer, would want to be CMO
   -if actino then open to treatment
   -making girlfriend, [**Name (NI) 6555**] HCP
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-18**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2139-01-20 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - extubated and reintubated later after voicing preference to avoid
   prolonged intubation, to be made comfortable if diagnosis of right lung
   disease was cancer
   - IP: will go for rigid bronch tomorrow, frozen sections, possible
   stent of bronchus intermedius
   - ID: ok to start micafungin
   - could not aggressively diuresis b/c of sbp in 90s
   - spoke to pharm about concentrating meds
 INVASIVE VENTILATION - START [**2139-1-19**] 10:43 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2139-1-19**] 05:27 PM
   Cefipime - [**2139-1-19**] 05:29 PM
   Penicillin G potassium - [**2139-1-20**] 03:23 AM
   Vancomycin - [**2139-1-20**] 03:24 AM
   Ciprofloxacin - [**2139-1-20**] 03:56 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Dobutamine - 4 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2139-1-19**] 10:33 AM
   Famotidine (Pepcid) - [**2139-1-19**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-20**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 108 (105 - 127) bpm
   BP: 104/54(65) {83/42(50) - 125/70(81)} mmHg
   RR: 21 (20 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,032 mL
                                                                    752 mL
   PO:
             TF:
                                                                    220 mL
                                                                      0 mL
   IVF:
                                                                  1,812 mL
                                                                    752 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    325 mL
   Urine:
                                                                  3,170 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,138 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 97%
   ABG: ///35/
   Ve: 8.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   9.8 g/dL
   117 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   14 mg/dL
   97 mEq/L
   141 mEq/L
   29.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
   WBC
   7.4
   7.1
   7.2
   7.7
   7.2
   Hct
   34.6
   32.0
   32.8
   30.7
   30.3
   29.8
   Plt
   299
   237
   246
   267
   234
   Cr
   0.9
   0.7
   0.7
   0.7
   0.8
   TCO2
   39
   38
   33
   36
   Glucose
   100
   84
   75
   95
   117
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   64 yo male with h/o lung ca s/p left pneumonectomy, DM2, HTN, here with
   worsening dyspnea, low grade temps, and productive cough, transferred
   to the MICU after hypoxic respiratory failure in the setting of
   bronchospy now with CTA concerning for multifocal PNA, without evidence
   of PE
   # Hypoxic respiratory failure:  intubated in setting of bronchoscopy,
   biopsy, and desaturation.  Has partial occlusion of RUL bronchus,
   likely from metastatic versus de [**Last Name (un) 5275**] lung cancer and known actinomyces
   infection.  Barriers to extubation likely were secretions and possible
   fluid overload.  There was no evidence of PE on CTA yesterday.
   Attempted diuresis yesterday with dobutamine for BP control, but
   patient was essentially even over 24 hrs.  Patient self extubated this
   AM.
   - will try to keep extubated today, but if patient appears to tire out,
   will reintubate.
   - recheck ABG this AM after extubation
   - continue PCN x [**4-14**] wks (day 1 = [**2139-1-15**])
   - awaiting biopsy, FNA, and culture results
   - will likely need RUL stent in future
   - nebulizer standing and PRN
   - treat for VAP with vanc/cefepime/cipro; recheck sputum cx.  Will give
   8 day course (day 1= [**2139-1-18**])
   - goal I/O -500 to -1L today
   - will d/w IP regarding possible stenting of bronchus intermedius
   # Hypotension:  Has RV dysfunction and PA hypertension and known
   compression of pulmonary arteries from lymphadenopathy.  Hypovolemia
   and sepsis may also be contributing.  No evidence of PE to cause RV
   overload.
   - attempt diuresis with lasix gtt today for goal -500 to -1L;  can use
   dobutamine for BP control to maintain MAP>60
   - cont treatment for VAP as above which may also contribute to
   # DM2:
   - ISS
   # HTN:
   - restart metoprolol and lisinopril once BPs stabilize
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-18**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-20 11:25:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, rt hilar mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 failed self-extubation - reintubated
micafungin started
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2139-1-19**] 05:27 PM
   Cefipime - [**2139-1-19**] 05:29 PM
   Vancomycin - [**2139-1-20**] 03:24 AM
   Ciprofloxacin - [**2139-1-20**] 03:56 AM
   Penicillin G potassium - [**2139-1-20**] 08:23 AM
   Infusions:
   Dobutamine - 4 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-20**] 09:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-20**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 111 (105 - 119) bpm
   BP: 101/52(62) {83/42(50) - 112/62(69)} mmHg
   RR: 23 (20 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,032 mL
                                                                  1,002 mL
   PO:
             TF:
                                                                    220 mL
                                                                      0 mL
   IVF:
                                                                  1,812 mL
                                                                  1,002 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    430 mL
   Urine:
                                                                  3,170 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,138 mL
                                                                    572 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 95%
   ABG: ///35/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   Rt expiratory, Absent : Lt, Rhonchorous: Rt)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   234 K/uL
   117 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   14 mg/dL
   97 mEq/L
   141 mEq/L
   29.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-1-15**]  04:10 AM
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
   WBC
   7.4
   7.1
   7.2
   7.7
   7.2
   Hct
   34.6
   32.0
   32.8
   30.7
   30.3
   29.8
   Plt
   299
   237
   246
   267
   234
   Cr
   0.9
   0.7
   0.7
   0.7
   0.8
   TCO2
   39
   38
   33
   36
   Glucose
   100
   84
   75
   95
   117
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Airway management
   -self extubated yesterday - subsequently failed with inc WOB, resp
   distress requiring reintubation
   -significant reduction in baseline pulm fxn: s/p Lt pneumonectomy, RUL
   takeoff obliterated per report, bronchus intermedius narrowed by mass
   -For IP procedure today -- bx, frozen sections and likley stent
   bronchus intermedius
    Rt hilar mass
   -Bx revealed only necrotic tissue at [**Hospital1 966**]
   -endobronchial appearance very c/w lung ca per IP.
   -grew out actinomyces from [**Hospital1 966**] procedure.  Is currently on PCN for
   presumed actinomcyosis.
   -path from TBNA negative
   -ID following - started micafungin for recurrent yeast on cx
   -for repeat bx/frozen section today since still felt most c/w cancer
    Fluid overload
   -diurese as able
   -concentrate meds
   PHTN/RV failure
   -echo with sig evidence pHTN
   -diuresing to offload volume overload
   -dobutamine to support diuresis
    Level of care
   -based on discusision with pt prior to reintubation:
   -open to aggressive care as long as reversible
   -if mass is lung cancer, would want to be CMO
   -if actino or other infection then open to treatment
   -making girlfriend, [**Name (NI) 6555**] HCP
    Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-20**] 09:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Patient is critically ill.
   Total time spent: 50minutes

2139-01-21 09:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2139-1-20**] 02:15 PM
   - IP placed stent in bronchus intermedius and took frozen sections
   - prelim path concerning for carcinoma
   - dobutamine decreased, propofol decreased
   - UOP trended down around 5 AM- rcvd 500 cc NS bolus without much
   improvement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-20**] 03:56 AM
   Penicillin G potassium - [**2139-1-20**] 12:00 PM
   Vancomycin - [**2139-1-20**] 03:56 PM
   Micafungin - [**2139-1-20**] 05:36 PM
   Cefipime - [**2139-1-21**] 06:09 AM
   Metronidazole - [**2139-1-21**] 08:00 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-21**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 97 (84 - 123) bpm
   BP: 97/54(64) {84/46(56) - 117/68(78)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,245 mL
                                                                  1,298 mL
   PO:
             TF:
                                                                    149 mL
                                                                     52 mL
   IVF:
                                                                  2,006 mL
                                                                  1,157 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    142 mL
   Urine:
                                                                    860 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,385 mL
                                                                  1,156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: ///33/
   Ve: 7.8 L/min
   Physical Examination
   Gen: WDWN male, intubated, NAD, responding to questions appropriately,
   follows commands
   CV: RRR
   Lungs: coarse BS on Right, crackles, and scattered rhonci
   Abd: soft, normal BS. Nontender
   Ext: 1+ edema
   Neuro: A/O x 3; intubated, responding to voice
   Labs / Radiology
   251 K/uL
   9.4 g/dL
   113 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   17 mg/dL
   96 mEq/L
   137 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
   WBC
   7.1
   7.2
   7.7
   7.2
   7.6
   Hct
   32.0
   32.8
   30.7
   30.3
   29.8
   29.2
   Plt
   237
   246
   267
   234
   251
   Cr
   0.7
   0.7
   0.7
   0.8
   1.5
   TCO2
   39
   38
   33
   36
   Glucose
   84
   75
   95
   117
   113
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64 yo male with h/o lung ca s/p left pneumonectomy, DM2, HTN, here with
   worsening dyspnea, low grade temps, and productive cough, transferred
   to the MICU after hypoxic respiratory failure in the setting of
   bronchospy now with CTA concerning for multifocal PNA, without evidence
   of PE
   # Hypoxic respiratory failure:  intubated in setting of bronchoscopy,
   biopsy, and desaturation.  Has partial occlusion of RUL bronchus,
   likely from metastatic versus de [**Last Name (un) 5275**] lung cancer infection.  Also with
   yeast on lung bx and possible VAP.  Self extubated on 1/11but
   reintubated one hour later for tachypnea.  s/p stent to bronchus
   intermedius.
   - pathology c/w poorly differentiated carcinoma
   - stopped PCN per ID, cont cefepime.  Stopped vanco with MRSA.
   Currently on micafungin for fungi, but ID considering fluconazole
   - nebulizer standing and PRN
   - hold off on further diuresis currently given hypotension and [**Last Name (un) 2406**]
   - will attempt SBT this AM
   - d/w [**Last Name (un) 6555**] and patient regarding further status- will consult onc for
   consideration of options (chemo vs XRT vs no further therapy)
   # Hypotension:  Has RV dysfunction and PA hypertension and known
   compression of pulmonary arteries from lymphadenopathy.  Unlikely to be
   septic given no other positive cultures and being treated for VAP and
   fungal lung infection
   - attempt to transition from dobutamine to levophed today
   - fluid bolus PRN
   - consider swan ganz
   # [**Last Name (un) 2406**]: mild elevation in creatinine.   Possibly pre-renal in the
   setting of low volume vs mild hypotension yesterday during procedure.
   UOP did improve to small fluid bolus this morning
   - repeat bolus for low UOP and low BP
   - recheck lytes
   - consider urine lytes
   # DM2:
   - ISS
   # HTN: not an issue currently; holding metoprolol and lisinopril
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-20**] 09:02 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-01-21 09:44:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, lung cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 IP for rigid bronch - bx and stent placement- At [**2139-1-20**] 02:15 PM
        -preliminary - concerning for carcinoma
urine output down -> IVF bolus
Still on low dose dobutamine
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-20**] 03:56 AM
   Penicillin G potassium - [**2139-1-20**] 12:00 PM
   Vancomycin - [**2139-1-20**] 03:56 PM
   Micafungin - [**2139-1-20**] 05:36 PM
   Cefipime - [**2139-1-21**] 06:09 AM
   Metronidazole - [**2139-1-21**] 08:00 AM
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-21**] 08:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-21**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 97 (84 - 123) bpm
   BP: 97/54(64) {84/46(56) - 117/68(78)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,245 mL
                                                                  1,298 mL
   PO:
             TF:
                                                                    149 mL
                                                                     52 mL
   IVF:
                                                                  2,006 mL
                                                                  1,157 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    142 mL
   Urine:
                                                                    860 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,385 mL
                                                                  1,156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: ///33/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   right, Absent : left, Rhonchorous: ), prolonged exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   251 K/uL
   113 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   17 mg/dL
   96 mEq/L
   137 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2139-1-16**]  02:23 PM
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
   WBC
   7.1
   7.2
   7.7
   7.2
   7.6
   Hct
   32.0
   32.8
   30.7
   30.3
   29.8
   29.2
   Plt
   237
   246
   267
   234
   251
   Cr
   0.7
   0.7
   0.7
   0.8
   1.5
   TCO2
   39
   38
   33
   36
   Glucose
   84
   75
   95
   117
   113
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   Airway management
   -significant reduction in baseline pulm fxn: s/p Lt pneumonectomy, RUL
   takeoff obliterated per report, bronchus intermedius narrowed by mass
   -Stent placed, additional Bx sent
   Resp failure
   -SBT to assess for extubation
   -? Bronch to remove secretions/optimize prior to extubation
    Rt hilar mass
   -Preliminary read carcinoma
   -grew out actinomyces from [**Hospital1 966**] procedure.  Is currently on PCN for
   presumed actinomcyosis.
   -ID following - started micafungin for recurrent yeast on cx
     Fluid overload
   -diurese as able
   -concentrate meds
   PHTN/RV failure
   -echo with sig evidence pHTN
   -diuresed to offload volume overload
   -wean dobutamine as tolerated
   Hypotention
   -etiology not entirely clear
   -dobutamine started to assist with diuresis but now requiring for bp
   support
   -afeb, wbc nl, no inc secretions and already on broad spectrum abx so
   sepsis unlikely
   -? if related to Rt heart failure
   Renal function
   -creat rising
   -? pre-renal
 small bolus
    Level of care
   -based on discusision with pt prior to reintubation:
   -need to rediscuss today in ligth of prelim path results of carcinoma
   -waiting for girlfriend, [**Name (NI) 6555**], who is HCP to come in.  Hopefully can
   extubate for discussion
    Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-20**] 09:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-01-22 00:39:00 Physician Resident Progress Note
Chief Complaint: MICU Green to [**Hospital Unit Name 10**] Transfer for planned XRT
   24 Hour Events:
   [**Hospital Unit Name 10397**] NOTE:
   Please refer to prior admit note from [**2139-1-12**], pulmonary consult note on
   [**2139-1-14**], MICU Green Note [**1-17**] for full details.
   .
   Briefly, 64M with h/o lung ca s/p left pneumonectomy ([**2125**], unknown
   CA), more recently had w/u of recurrent R lung mass (unrevealing
   medisastinoscopy and paraceliac LN biopsy ([**7-17**]) at [**Hospital1 966**].
   .
   [**2138-1-12**] [Floor]: Pt presented ED on [**2139-1-12**] for with productive cough,
   low grade temps, worsening dyspnea, and tachypnea. Treated with
   Levo/Clinda for post-obstructive RLL PNA
   .
   [**Date range (1) 10398**] [Floor, ICU, Floor, Bronch, ICU]: CT scan revealed R
   hilar cavitating mass with evidence of tree and [**Male First Name (un) **] opacities of the
   right lung. Pt subsequently tachypnea to 30s and transfered to MICU
   Green. Clinda/Levo was changed to PCN to treat for actinomyces. Pt
   subsequently called back out to floor and underwent Bronch that showed
   near occlusion of the RUL bronchus by  mass and endobronchial bx and
   transbronchial FNA performed. Pt desatted to 80% and remained
   intubated, transfered back to the MICU.
   .
   [**Date range (1) 10399**]: [ICU] Pt placed on Levophed. On [**1-18**] underwent repeat
   Chest CT and started on Vanc/Cefepime/Cipro. Pt given increasing doses
   of IV Lasix and later placed on Dobutamine to assist with diuresis.
   ([**1-19**]) Micafungin, Flaygl added as PCN and Cipro d/c'd. ([**1-20**]) Vanc
   d/c'd as the pt underwent a rigid/flex bronch that revealed poorly
   differentiaed NSCLC. Today the patient was consulted by Heme-Onc where
   numerous options were presented to the patient (XRT, chemo). The pt
   initially decided against XRT, but later reversed his decision and is
   now being transfered to the [**Hospital Ward Name 307**] to undergo XRT. Prior to
   transfer the pt was hypotensive, started back on Levophed and given IV
   Bolus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-20**] 03:56 AM
   Penicillin G potassium - [**2139-1-20**] 12:00 PM
   Vancomycin - [**2139-1-20**] 03:56 PM
   Micafungin - [**2139-1-20**] 05:36 PM
   Cefipime - [**2139-1-21**] 06:09 AM
   Fluconazole - [**2139-1-21**] 03:30 PM
   Metronidazole - [**2139-1-21**] 04:45 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-21**] 09:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2139-1-22**] 12:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 93 (93 - 123) bpm
   BP: 120/71(83) {89/50(59) - 130/94(102)} mmHg
   RR: 20 (18 - 42) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,683 mL
                                                                     13 mL
   PO:
             TF:
                                                                     52 mL
   IVF:
                                                                  2,541 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                    382 mL
                                                                     26 mL
   Urine:
                                                                    382 mL
                                                                     26 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,301 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 383 (231 - 383) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: ///34/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Absent : On Left (referred sounds from right), Rhonchorous: On Right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   9.4 g/dL
   94 mg/dL
   2.1 mg/dL
   34 mEq/L
   3.9 mEq/L
   21 mg/dL
   99 mEq/L
   141 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2139-1-16**]  04:08 PM
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
                             [**2139-1-21**]  05:04 PM
   WBC
   7.1
   7.2
   7.7
   7.2
   7.6
   Hct
   32.0
   32.8
   30.7
   30.3
   29.8
   29.2
   Plt
   237
   246
   267
   234
   251
   Cr
   0.7
   0.7
   0.7
   0.8
   1.5
   2.1
   TCO2
   38
   33
   36
   Glucose
   84
   75
   95
   117
   113
   94
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   64M s/p left pneumonectomy, pulmonary HTN [**2-10**] to mass effect here with
   hypoxic respiratory failure in the setting of bronchospy now with
   multifocal PNA, hypotension and new diagnosis of [**Hospital 10400**] transfered to
   [**Hospital Unit Name 10**] for planned XRT in AM.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Pt now appears to be overly diuresed.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - nebulizer standing and PRN
   - Will need to discuss long term possibility of trach if pt unable to
   come of vent
   .
   # Hypotension: Pt now back on levophed. Last TTE with RV dysfunction
   and PA hypertension. Has compression of pulmonary arteries from
   lymphadenopathy. DDx includes intravascular depletion (as evident of
   bump in Cr, decreased UOP following diuresis), less likely to be
   septic, adrenal insufficieny. Cannot follow JVP given known high PA
   pressures [**2-10**] mass effect.
   - fluid bolus PRN to keep MAPs >65
   - Levophed PRN
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.
   - XRT and mapping in AM
   .
   # [**Last Name (un) 2406**]: Basline Cr 0.7 to 2.1, in last 24hrs has bumped from 0.8 to 2.1.
   as UOP has gone to zero. Given that patient was being diuresed, this is
   likely pre-renal.
   - Urine Lytes
   - Urine Sediment to r/o ATN
   - Bolus IVF to goal UOP of 30cc/hr.
   .
   # DM2:
   - ISS
   .
   # FEN: NS PRN/ replete lytes prn / TFs
   # PPX: Pneumoboots
   # ACCESS: PICC
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-20**] 09:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-22 07:37:00 Physician Resident Progress Note
Chief Complaint: hypoxemic resp failure, NSCLC
   24 Hour Events:
 EKG - At [**2139-1-22**] 04:05 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-20**] 03:56 AM
   Penicillin G potassium - [**2139-1-20**] 12:00 PM
   Vancomycin - [**2139-1-20**] 03:56 PM
   Micafungin - [**2139-1-20**] 05:36 PM
   Fluconazole - [**2139-1-21**] 03:30 PM
   Metronidazole - [**2139-1-22**] 04:03 AM
   Cefipime - [**2139-1-22**] 06:03 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-21**] 09:57 PM
   Other medications:
   Changes to medical and family history:
   denies pain this morning, comfortable
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-22**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 92 (82 - 109) bpm
   BP: 94/55(64) {89/50(59) - 130/94(102)} mmHg
   RR: 19 (9 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,683 mL
                                                                    775 mL
   PO:
             TF:
                                                                     52 mL
   IVF:
                                                                  2,541 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                    382 mL
                                                                    178 mL
   Urine:
                                                                    382 mL
                                                                    178 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,301 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 383 (231 - 383) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 96%
   ABG: ///30/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right > left, Bronchial: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   259 K/uL
   9.4 g/dL
   75 mg/dL
   2.4 mg/dL
   30 mEq/L
   3.7 mEq/L
   25 mg/dL
   101 mEq/L
   142 mEq/L
   29.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-1-17**]  02:06 AM
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
                             [**2139-1-21**]  05:04 PM
                             [**2139-1-22**]  04:54 AM
   WBC
   7.1
   7.2
   7.7
   7.2
   7.6
   7.2
   Hct
   32.0
   32.8
   30.7
   30.3
   29.8
   29.2
   29.3
   Plt
   237
   246
   267
   [**Telephone/Fax (3) 10404**]
   Cr
   0.7
   0.7
   0.7
   0.8
   1.5
   2.1
   2.4
   TCO2
   33
   36
   Glucose
   84
   75
   95
   117
   113
   94
   75
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   ECG: S1Q3T3 pattern suggestive of right heart strain
   Assessment and Plan
   64M s/p left pneumonectomy, pulmonary HTN [**2-10**] to mass effect here with
   hypoxic respiratory failure in the setting of bronchospy now with
   multifocal PNA, hypotension and new diagnosis of [**Hospital 10400**] transfered to
   [**Hospital Unit Name 10**] for planned XRT in AM.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - nebulizer standing and PRN
   - Will need to discuss long term possibility of trach if pt unable to
   come of vent
   - will likely need diuresis with dobutamine, will hold on diuresis
   today
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.
   - XRT and mapping in AM
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care
   # Hypotension: Pt has intermittently required levophed. Last TTE with
   RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.
   - fluid bolus PRN to keep MAPs >65, avoid levophed if able
   .
   # [**Last Name (un) 2406**]: Basline Cr 0.7 to 2.1, in last 24hrs has bumped from 0.8 to 2.1.
   as UOP has gone to zero. Given that patient was being diuresed, this
   could be pre-renal.  More likely etiology is CIN from dye load 4 days
   ago.
   - Urine Lytes
   - Urine Sediment to r/o ATN
   - will consider diuresis when creatinine improves
   .
   # DM2:
   - ISS
   .
   # FEN: NS PRN/ replete lytes prn / TFs held this AM
   # PPX: Pneumoboots
   # ACCESS: PICC
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-20**] 09:02 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: famotidine
   VAP:  fluconazole, cefepime, flagyl
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 10**]

2139-01-23 06:44:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, NSCLC
   24 Hour Events:
   -Mapped, got first round of XRT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-1-20**] 12:00 PM
   Vancomycin - [**2139-1-20**] 03:56 PM
   Micafungin - [**2139-1-20**] 05:36 PM
   Fluconazole - [**2139-1-21**] 03:30 PM
   Metronidazole - [**2139-1-23**] 04:00 AM
   Cefipime - [**2139-1-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   feels warm, denies pain, comfortable
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-23**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 95 (84 - 108) bpm
   BP: 96/53(63) {89/46(58) - 132/82(95)} mmHg
   RR: 22 (11 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,986 mL
                                                                    555 mL
   PO:
             TF:
                                                                    191 mL
                                                                    208 mL
   IVF:
                                                                  1,715 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    255 mL
   Urine:
                                                                    560 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,426 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   right > left, Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   311 K/uL
   9.8 g/dL
   89 mg/dL
   3.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   33 mg/dL
   102 mEq/L
   142 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-1-17**]  03:01 PM
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
                             [**2139-1-21**]  05:04 PM
                             [**2139-1-22**]  04:54 AM
                             [**2139-1-23**]  03:55 AM
   WBC
   7.2
   7.7
   7.2
   7.6
   7.2
   7.7
   Hct
   32.8
   30.7
   30.3
   29.8
   29.2
   29.3
   32.1
   Plt
   [**Telephone/Fax (2) 10422**]
   Cr
   0.7
   0.7
   0.8
   1.5
   2.1
   2.4
   3.0
   TCO2
   33
   36
   Glucose
   75
   95
   117
   113
   94
   75
   89
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), LUNG
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan
   64M s/p left pneumonectomy, pulmonary HTN [**2-10**] to mass effect here with
   hypoxic respiratory failure in the setting of bronchospy now with
   multifocal PNA, hypotension and new diagnosis of [**Hospital 10400**] transfered to
   [**Hospital Unit Name 10**] for planned XRT in AM.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - nebulizer standing and PRN
   - Will need to discuss long term possibility of trach if pt unable to
   come of vent
   - will likely need diuresis with dobutamine, will hold on diuresis
   today
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.
   - XRT and mapping in AM
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care
   # Hypotension: Pt has intermittently required levophed. Last TTE with
   RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.
   - fluid bolus PRN to keep MAPs >65, avoid levophed if able
   .
   # [**Last Name (un) 2406**]: Basline Cr 0.7 to 2.1, in last 24hrs has bumped from 0.8 to 2.1.
   as UOP has gone to zero. Given that patient was being diuresed, this
   could be pre-renal.  More likely etiology is CIN from dye load 4 days
   ago.
   - Urine Lytes
   - Urine Sediment to r/o ATN
   - will consider diuresis when creatinine improves
   .
   # DM2:
   - ISS
   .
   # FEN: NS PRN/ replete lytes prn / TFs held this AM
   # PPX: Pneumoboots
   # ACCESS: PICC
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT in AM
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-1-22**] 11:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   18 Gauge - [**2139-1-20**] 09:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-24 06:34:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure, NSCLC
   24 Hour Events:
 RADIATION THERAPY - At [**2139-1-23**] 11:24 AM
   hypotensive to 70s SBP overnight [**2-10**] propofol
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-23**] 04:00 PM
   Metronidazole - [**2139-1-24**] 04:38 AM
   Cefipime - [**2139-1-24**] 06:07 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-1-23**] 04:15 PM
   Famotidine (Pepcid) - [**2139-1-23**] 08:08 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-24**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   denies pain this a.m., comfortable
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-24**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 96 (91 - 106) bpm
   BP: 94/55(63) {79/28(53) - 124/74(84)} mmHg
   RR: 33 (7 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,847 mL
                                                                  1,435 mL
   PO:
             TF:
                                                                    543 mL
                                                                    332 mL
   IVF:
                                                                  1,064 mL
                                                                  1,103 mL
   Blood products:
   Total out:
                                                                  1,121 mL
                                                                    171 mL
   Urine:
                                                                  1,121 mL
                                                                    171 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                  1,264 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 432 (403 - 472) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ///30/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g; PMI displaced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   334 K/uL
   9.7 g/dL
   126 mg/dL
   3.1 mg/dL
   30 mEq/L
   3.9 mEq/L
   39 mg/dL
   107 mEq/L
   144 mEq/L
   32.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2139-1-17**]  07:52 PM
                             [**2139-1-18**]  04:09 AM
                             [**2139-1-18**]  12:20 PM
                             [**2139-1-19**]  03:38 AM
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
                             [**2139-1-21**]  05:04 PM
                             [**2139-1-22**]  04:54 AM
                             [**2139-1-23**]  03:55 AM
                             [**2139-1-24**]  04:10 AM
   WBC
   7.2
   7.7
   7.2
   7.6
   7.2
   7.7
   7.4
   Hct
   30.7
   30.3
   29.8
   29.2
   29.3
   32.1
   32.4
   Plt
   [**Telephone/Fax (3) 10422**]
   334
   Cr
   0.7
   0.7
   0.8
   1.5
   2.1
   2.4
   3.0
   3.1
   TCO2
   33
   36
   Glucose
   75
   95
   117
   113
   94
   75
   89
   126
   Other labs: PT / PTT / INR:14.4/34.5/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Microbiology: [**2139-1-23**] culture data (-)
   Problem [**Name (NI) 198**]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), LUNG
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan
   64M s/p left pneumonectomy, pulmonary HTN [**2-10**] to mass effect here with
   hypoxic respiratory failure in the setting of bronchospy now with
   multifocal PNA, hypotension and new diagnosis of [**Hospital 10400**] transfered to
   [**Hospital Unit Name 10**] for planned XRT.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF/hypervolemia.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - nebulizer standing and PRN
   - Will need to discuss long term possibility of trach if pt unable to
   come of vent
   - continue diuresis today, see below
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received two
   sessions of XRT.  Plan for third today
   - XRT possibly this a.m., if not, then [**2139-1-27**]
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care
   # [**Last Name (un) 2406**]: Basline Cr 0.8 to 3.1 in past 96 hours.  Given that patient was
   being diuresed, this could be pre-renal.  More likely etiology is CIN
   from dye load.  Hypotension overnight [**2-10**] propofol.  Responded to lasix
   previously with BP maintained.
   - Urine Lytes repeated
   - Urine Sediment to r/o ATN
   - plan for lasix gtt today, avoiding sedation today to maintain BP
   - renally dose meds
   # Hypotension: Pt has intermittently required levophed. Last TTE with
   RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Hypotensive overnight,  [**2-10**]
   propofol.
   - avoid sedation today during diuresis
   ..
   # DM2:
   - ISS
   .
   # FEN: NS PRN/ replete lytes prn / TFs
   # PPX: Pneumoboots, famotidine, SC heparin
   # ACCESS: PICC
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-1-24**] 04:43 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-16**] 01:45 PM
   20 Gauge - [**2139-1-23**] 09:05 PM
   Prophylaxis:
   DVT: see above
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 10**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 6551**] and reviewed his historical, lab, and
   imaging data.  I was present for the key portions of the services
   provided.  I have read Dr [**Last Name (STitle) 8092**]
s note above, and agree with his
   findings and plan of care.  The patient is sadly in a difficult
   predicament with his being s/p left pneumonectomy in the past for lung
   ca, and now has a new right lung  endobroncially obstructing NSCLC
   which has contributed to post obstructive pneumonia in a substantial
   portion of his remaining right lung. He
s had an endobronchial stent
   placed by IP and is on broad spectrum antibiotics while he undergoes
   XRT in an effort to open up his right lung airways. We are supporting
   him for now aggressively with antibiotics, XRT, mech ventilator, etc.
   He also has pulm htn and the tumor abuts the pulmonary artery, so we
   can only hope there is no invasion into the pulmonary artery.  He has
   likely contrast induced renal insufficiency, so we are trying to avoid
   further renal insult or dehydration.  Ethical issues and patient
   wishes are as per Dr [**Last Name (STitle) 8092**]
s note above
   40 min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2139-1-24**] 15:36 ------

2139-01-25 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE
 placed this AM by [**Doctor First Name **]
   - Hypotensive this AM, after 40mg IV lasix, required 500cc back.  Did
   not respond to lasix drip.
   - 3rd session of XRT, tolerated well
   - repeated ABG, essentially unchanged from [**2139-1-18**]
   - started lasix gtt, goal negative one liter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-24**] 04:25 PM
   Metronidazole - [**2139-1-25**] 03:49 AM
   Cefipime - [**2139-1-25**] 05:56 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-24**] 08:54 PM
   Midazolam (Versed) - [**2139-1-24**] 10:05 PM
   Furosemide (Lasix) - [**2139-1-25**] 01:36 AM
   Heparin Sodium (Prophylaxis) - [**2139-1-25**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-25**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 90 (89 - 104) bpm
   BP: 92/53(64) {79/43(53) - 119/71(87)} mmHg
   RR: 20 (12 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
              15L + LOS
   Total In:
                                                                  3,037 mL
                                                                  1,280 mL
   PO:
                       TF:
                                                                  1,183 mL
                                                                    436 mL
   IVF:
                                                                  1,709 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                  1,106 mL
                                                                    568 mL
   Urine:
                                                                  1,046 mL
                                                                    568 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,931 mL
                                                                    712 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 356 (294 - 422) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: 7.30/70/80.[**Numeric Identifier 500**]/29/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, copious frothy
   oral secretions.
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g; PMI displaced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, RUE edema>LUE edema, tender to palpation, particular at AC
   joint.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   291 K/uL
   9.1 g/dL
   127 mg/dL
   3.1 mg/dL
   29 mEq/L
   3.6 mEq/L
   44 mg/dL
   107 mEq/L
   145 mEq/L
   30.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2139-1-20**]  03:38 AM
                             [**2139-1-21**]  04:33 AM
                             [**2139-1-21**]  05:04 PM
                             [**2139-1-22**]  04:54 AM
                             [**2139-1-23**]  03:55 AM
                             [**2139-1-24**]  04:10 AM
                             [**2139-1-24**]  05:34 PM
                             [**2139-1-24**]  07:17 PM
                             [**2139-1-25**]  03:42 AM
                             [**2139-1-25**]  04:05 AM
   WBC
   7.2
   7.6
   7.2
   7.7
   7.4
   6.4
   Hct
   29.8
   29.2
   29.3
   32.1
   32.4
   30.1
   Plt
   [**Telephone/Fax (2) 10449**]
   Cr
   0.8
   1.5
   2.1
   2.4
   3.0
   3.1
   3.0
   3.1
   TCO2
   35
   36
   Glucose
   117
   113
   94
   75
   89
   126
   128
   127
   Other labs: PT / PTT / INR:16.3/36.9/1.4, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF/hypervolemia.  Did not tolerate
   Pressure support overnight.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - nebulizer standing and PRN
   - Will need to discuss long term possibility of trach if pt unable to
   come of vent
   - Hold off on diuresis, reasses this afternoon and if positive, attempt
   diuresis
   - continue XRT
   - continue weaning trials
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fourth tuesday
   - XRT as scheduled
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care
   .
   # [**Last Name (un) 2406**]: Basline Cr 0.8 to 3.1 in past 96 hours.  Given that patient was
   being diuresed, this could be pre-renal.  More likely etiology is CIN
   from dye load.  Continues to be difficult to diurese [**2-10**] to
   hypertension, would try pressors with high level lasix drip.
   - goal even to negative
   - Urine Lytes
 FeUrea
 26.2
   - Urine Sediment to r/o ATN
   - renally dose meds
   - hold off on diuresis pending resolution of [**Last Name (un) 2406**] as no evidence of left
   sided  heart failure
   .
   # Hypotension: Pt has intermittently required levophed. Last TTE with
   RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Hypotensive overnight,  [**2-10**]
   propofol.
   - avoid sedation
   - levophed to prioritize diuresis
   ..
   # DM2:
   - ISS
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT tuesday
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-1-24**] 11:19 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-25**] 12:21 AM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 6551**] and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 8988**]
s note above
   and I agree with his findings and plan of care.  Mr [**Known lastname 6551**] is quite
   awake today, communicating by writing that he has left shoulder pain.
   On exam there seems to be tenderness along course of vein in LUE for
   which we will obtain UE Doppler.  But also he has exquisite tenderness
   along bicipital groove and I wonder if he might have tendonitis there.
   We will call rheumatololgy to come see and evaluate him.
   He continues to have lots of purulent secretions and rhonchi and to
   easily tire on lesser (PSV) forms of vent support.  Hopefully as he
   opens up his Rt bronchus intermedius and as secretions empty our and
   thin out, he will be able to proceed to vent independence and
   extubation.  That may well require a few more days of XRT, antibiotics
   and vent support and suctioning.  For now we will keep I=O as he seems
   intravascularly euvolemic (though admittedly he is third spacing a fair
   amount of fluid).
   40 min spent in the care of this critically ill patient
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2139-1-25**] 16:31 ------

2139-01-26 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - tachypneic on CPAP
   - Retaining on AC at 10, turned up rate to 20
   - deferred PM Lasix for 2L + for SBP in 80's
   24 Hour Events:
 ULTRASOUND - At [**2139-1-25**] 01:07 PM
    Left arm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-25**] 04:00 PM
   Metronidazole - [**2139-1-26**] 04:06 AM
   Cefipime - [**2139-1-26**] 05:44 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-25**] 07:38 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-26**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-26**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 99 (80 - 101) bpm
   BP: 91/51(63) {91/51(63) - 138/94(101)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,372 mL
                                                                    762 mL
   PO:
             TF:
                                                                  1,559 mL
                                                                    464 mL
   IVF:
                                                                  1,548 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  1,161 mL
                                                                    215 mL
   Urine:
                                                                  1,161 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,211 mL
                                                                    547 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 366 (366 - 366) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 37 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.34/62/84.[**Numeric Identifier 1132**]/28/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, copious frothy
   oral secretions.
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g; PMI displaced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, RUE edema>LUE edema, tender to palpation, particular at AC
   joint.
   Skin:  Warm
   Neurologic: Attentive, Follows commands, answers yes/no qs, moving
   extremities equally
   Labs / Radiology
   303 K/uL
   9.4 g/dL
   134 mg/dL
   2.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   48 mg/dL
   111 mEq/L
   147 mEq/L
   30.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2139-1-23**]  03:55 AM
                             [**2139-1-24**]  04:10 AM
                             [**2139-1-24**]  05:34 PM
                             [**2139-1-24**]  07:17 PM
                             [**2139-1-25**]  03:42 AM
                             [**2139-1-25**]  04:05 AM
                             [**2139-1-25**]  05:26 PM
                             [**2139-1-25**]  07:45 PM
                             [**2139-1-26**]  03:42 AM
                             [**2139-1-26**]  04:19 AM
   WBC
   7.7
   7.4
   6.4
   6.0
   Hct
   32.1
   32.4
   30.1
   30.3
   Plt
   [**Telephone/Fax (3) 10464**]03
   Cr
   3.0
   3.1
   3.0
   3.1
   3.0
   2.9
   TCO2
   35
   36
   36
   35
   35
   Glucose
   89
   126
   128
   127
   135
   134
   Other labs: PT / PTT / INR:16.3/36.9/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   .
   MICRO: [**1-23**] sputum cx neg
   .
   LUE U/S: NO DVT
   Assessment and Plan
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF with severe PA HTN. Barriers to
   extubation are copious secretions and right heart failure.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - digoxin load to improve cardiac output in setting of decreased
   preload from right heart failure
   - hold off diuresis and pressors given hypothesis that pt needs higher
   preload
   - nebulizer standing and PRN
   - PSV trial 20/8 now
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fourth Tuesday.
   - XRT as scheduled
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Continues to be
   difficult to diurese [**2-10**] to hypotension, indicating necessary increased
   preload.
   - goal slightly positive today, bolus in order to maintian MAP>65
   - Urine Lytes
 FeUrea
 26.2
   - Urine Sediment to r/o ATN
   - renally dose meds
   .
   # Hypotension: Pt has intermittently required levophed. Last TTE with
   RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.
   - avoid sedation
   - TBB positive, digoxin as above
   ..
   # DM2:
   - ISS
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT tuesday
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-1-24**] 11:19 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-25**] 12:21 AM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined the patient and was present for the key portion
   of the services provided. I have reviewed Dr [**Last Name (STitle) **]
s note above and
   agree with her findings and plan of care.
   Mr [**Name13 (STitle) **] remains very alert and cooperative, reasonably comfortable
   but understandably distressed about his predicament.  He has shown
   significant volume sensitivity with any attempts to diurese him met
   with falling BP.  With his PASP of 90 at rest  and his dilated
   hyokinetic RV on echo I suspect he has cor pulmonale and has decreased
   LV preload due to poor forward RV output.  I read his CT scan last week
   as showing RUL pneumonia and showing Rt lung mass, not so much any
   pulmonary edema.  Thus I would give him back some fluid and try digoxin
   (as an RV inotrope).
   He was intubated during bronch with some bleeding so I am hopeful he
   can be extubated soon, esp if his secretions improve a bit more.  I
   would rebronch him prior to any extubation attempt, in an effort to
   reassess his airway and bronchus intermedius stent. It might be
   desirable to talk to IP service and see if they agree and would want to
   be present during such bronch.
   The patient
s CT shows extensive tumor in his Rt lung, including
   occluding RUL bronchus and seemingly invading his Rt PA in more than
   one location.  As such his prognosis is much in question and it would
   be nice to discuss this further with the patient extubated and able to
   better communicate.
   For now we will continue with vent support, giving him another PSV
   trial and also continuing antibiotics.
   45 min spent in the care of this critically ill patient
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2139-1-26**] 16:15 ------

2139-01-27 06:37:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, NSCLC
   24 Hour Events:
   - started dig presuming R heart failure was leading to poor filling and
   lower left output, this seemed to improve BPs
   - did well on PSV
   - stopped bolusing for marginal low MAPs since A-line readings not
   accurate and non-invasive reads higher
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-25**] 04:00 PM
   Cefipime - [**2139-1-26**] 05:44 AM
   Metronidazole - [**2139-1-27**] 03:21 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-26**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-27**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   comfortable, no distress, denies pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 103 (95 - 104) bpm
   BP: 97/49(63) {59/34(47) - 124/72(89)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,487 mL
                                                                    510 mL
   PO:
             TF:
                                                                  1,515 mL
                                                                    325 mL
   IVF:
                                                                  2,763 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    668 mL
                                                                    290 mL
   Urine:
                                                                    668 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,819 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 352 (352 - 384) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 94%
   ABG: 7.30/63/73.[**Numeric Identifier **]/29/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   342 K/uL
   9.3 g/dL
   129 mg/dL
   2.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   54 mg/dL
   113 mEq/L
   147 mEq/L
   30.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2139-1-24**]  07:17 PM
                             [**2139-1-25**]  03:42 AM
                             [**2139-1-25**]  04:05 AM
                             [**2139-1-25**]  05:26 PM
                             [**2139-1-25**]  07:45 PM
                             [**2139-1-26**]  03:42 AM
                             [**2139-1-26**]  04:19 AM
                             [**2139-1-26**]  04:48 PM
                             [**2139-1-27**]  02:35 AM
                             [**2139-1-27**]  04:36 AM
   WBC
   6.4
   6.0
   6.9
   Hct
   30.1
   30.3
   30.8
   Plt
   291
   303
   342
   Cr
   3.1
   3.0
   2.9
   2.8
   TCO2
   35
   36
   36
   35
   35
   32
   32
   Glucose
   127
   135
   134
   129
   Other labs: PT / PTT / INR:16.3/36.9/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Imaging: LUE u/s:  Slightly limited, but no evidence for DVT in the
   left upper extremity.
   Microbiology: negative culture data to date
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), LUNG
 DIABETES MELLITUS (DM), TYPE II
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF with severe PA HTN. Barriers to
   extubation are copious secretions and right heart failure.
   - Cont Cefepime, Flagyl, Fluconazole, today day [**6-22**]
   - cont digoxin to improve cardiac output in setting of decreased
   preload from right heart failure, check level in A.M.
   - consider lasix 20 mg IV Q8 to attempt goal Is/Os even for 24 hours
   - nebulizer standing and PRN
   - PSV trial daily
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fourth Tuesday.
   - XRT as scheduled today -> question expected time interval for
   possible response to XRT?
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Continues to be
   difficult to diurese [**2-10**] to hypotension, indicating necessary increased
   preload.   Creatinine slowly improving
   - goal even today, lasix 20 mg IV Q8 as above
   - Urine Lytes
 FeUrea
 26.2  -> pre-renal, can be seen in CIN
   - Urine Sediment to r/o ATN
   - renally dose meds
   - PM lytes
   .
   # Hypotension/CHF: Pt has intermittently required levophed. Last TTE
   with RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.
   - avoid sedation
   - TBB even, digoxin and diuresis as above, check dig level
   ..
   #  Hypernatremia:  Free water deficit 3 liters.  Will increase free
   water flushes with TF today.
   .
   # DM2:
   - ISS
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-1-26**] 08:52 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-25**] 12:21 AM
   Prophylaxis:
   DVT:  SC heparin, SCDs
   Stress ulcer:   famotidine
   VAP:   cefepime, flagyl, fluconazole
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  XRT today, [**Hospital Unit Name 10**]

2139-01-27 11:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-25**] 04:00 PM
   Cefipime - [**2139-1-26**] 05:44 AM
   Metronidazole - [**2139-1-27**] 03:21 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-26**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-27**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-27**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 108 (97 - 108) bpm
   BP: 102/50(66) {72/34(47) - 124/72(89)} mmHg
   RR: 26 (18 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,487 mL
                                                                    925 mL
   PO:
             TF:
                                                                  1,515 mL
                                                                    568 mL
   IVF:
                                                                  2,763 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                    668 mL
                                                                    470 mL
   Urine:
                                                                    668 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,819 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 291 (291 - 384) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.30/63/73.[**Numeric Identifier **]/29/2
   Ve: 4.7 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : right side, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   342 K/uL
   129 mg/dL
   2.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   54 mg/dL
   113 mEq/L
   147 mEq/L
   30.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2139-1-24**]  07:17 PM
                             [**2139-1-25**]  03:42 AM
                             [**2139-1-25**]  04:05 AM
                             [**2139-1-25**]  05:26 PM
                             [**2139-1-25**]  07:45 PM
                             [**2139-1-26**]  03:42 AM
                             [**2139-1-26**]  04:19 AM
                             [**2139-1-26**]  04:48 PM
                             [**2139-1-27**]  02:35 AM
                             [**2139-1-27**]  04:36 AM
   WBC
   6.4
   6.0
   6.9
   Hct
   30.1
   30.3
   30.8
   Plt
   291
   303
   342
   Cr
   3.1
   3.0
   2.9
   2.8
   TCO2
   35
   36
   36
   35
   35
   32
   32
   Glucose
   127
   135
   134
   129
   Other labs: PT / PTT / INR:16.3/36.9/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RUL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure.  Plan continue
   mechanical ventilation.  Monitor ABG.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependent.  Now volume expanded.  Plan to monitor BP, maintian MAP >60
   mmHg.
   HYPERNATREMIA -- increase free water.  Monitro serial Na+.
   LUNG CANCER -- NON-SMALL CELL,
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE --
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF with severe PA HTN. Barriers to
   extubation are copious secretions and right heart failure.
   - Cont Cefepime, Flagyl, Fluconazole per ID recs
   - digoxin load to improve cardiac output in setting of decreased
   preload from right heart failure
   - hold off diuresis and pressors given hypothesis that pt needs higher
   preload
   - nebulizer standing and PRN
   - PSV trial 20/8 now
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fourth Tuesday.
   - XRT as scheduled
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Continues to be
   difficult to diurese [**2-10**] to hypotension, indicating necessary increased
   preload.
   - goal slightly positive today, bolus in order to maintian MAP>65
   - Urine Lytes
 FeUrea
 26.2
   - Urine Sediment to r/o ATN
   - renally dose meds
   .
   # Hypotension: Pt has intermittently required levophed. Last TTE with
   RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.
   - avoid sedation
   - TBB positive, digoxin as above
   ..
   # DM2:
   - ISS
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT tuesday
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-1-26**] 08:52 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-25**] 12:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-28 07:02:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, NSCLC
   24 Hour Events:
   - received 4th session of XRT today
   - per Rad Onc resident, could possibly see symptomatic improvement [**7-20**]
   days after starting XRT, with or without radiographic improvement, but
   overall expectation low yield
   - diuresis attempted with lasix 20 mg IV Q8
   - repeat urine lytes -> FeNa 0.2, FeUrea 18% c/w pre-renal and CIN
   - increased free water boluses for mild hypernatremia
   - lasix 20 mg at 1900 followed by lasix gtt, will start dopa if needed
   - lasix gtt up to 10 mg/hr with good response
   - peak inspiratory pressures in mid-high 40s with lower plateaus,
   suggesting resistance, and with increased secretions over past few days
   -> ? result of XRT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-27**] 04:15 PM
   Metronidazole - [**2139-1-28**] 04:56 AM
   Cefipime - [**2139-1-28**] 05:56 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-1-27**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-28**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   comfortable, denies pain; short of breath yesterday
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-28**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 98 (96 - 111) bpm
   BP: 128/65(84) {83/43(56) - 128/106(112)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,569 mL
                                                                  1,888 mL
   PO:
             TF:
                                                                  1,176 mL
                                                                    347 mL
   IVF:
                                                                    733 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    820 mL
   Urine:
                                                                  1,110 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,459 mL
                                                                  1,068 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 296 (291 - 296) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.31/67/85.[**Numeric Identifier 433**]/30/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI murmur at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R > L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   347 K/uL
   8.8 g/dL
   124 mg/dL
   2.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   58 mg/dL
   112 mEq/L
   146 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2139-1-25**]  07:45 PM
                             [**2139-1-26**]  03:42 AM
                             [**2139-1-26**]  04:19 AM
                             [**2139-1-26**]  04:48 PM
                             [**2139-1-27**]  02:35 AM
                             [**2139-1-27**]  04:36 AM
                             [**2139-1-27**]  01:50 PM
                             [**2139-1-27**]  11:35 PM
                             [**2139-1-28**]  05:23 AM
                             [**2139-1-28**]  05:32 AM
   WBC
   6.0
   6.9
   6.5
   Hct
   30.3
   30.8
   29.4
   Plt
   [**Telephone/Fax (3) 10486**]
   Cr
   3.0
   2.9
   2.8
   2.7
   2.5
   2.4
   TCO2
   35
   35
   32
   32
   35
   Glucose
   135
   134
   129
   118
   120
   124
   Other labs: PT / PTT / INR:16.4/36.9/1.5, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), LUNG
 DIABETES MELLITUS (DM), TYPE II
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Pt has yeast on lung bx and possible VAP.  Now s/p
   stent to bronchus intermedius. Failure likely multifactorial, [**2-10**]
   NSCLC, VAP, and right heart CHF with severe PA HTN. Barriers to
   extubation are copious secretions and right heart failure.  High peak
   pressures with lower plateaus suggest resistance -> tumor +/-
   secretions.
   - Cont Cefepime, Flagyl, Fluconazole, today day [**7-22**]
   - cont digoxin to improve cardiac output in setting of decreased
   preload from right heart failure, level therapeutic
   - cont lasix gtt, add dopamine vs. dobutamine if needed for pressor
   support, goal even to (-) 2 liters
   - nebulizer standing and PRN
   - PSV trial daily
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fifth session today.
   - XRT as scheduled today -> re: response, may see symptomatic
   improvement in [**7-18**] days, +/- radiographic improvement
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach; Quenn will be in this
   afternoon
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Continues to be
   difficult to diurese [**2-10**] to hypotension, indicating necessary increased
   preload.   Creatinine slowly improving
   - goal even today, lasix gtt as above
   - repeat urine lytes suggest pre-renal or CIN
   - renally dose meds
   - Q6 lytes during diuresis
   .
   # Hypotension/CHF:  Pt has intermittently required levophed. Last TTE
   with RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.  Currently tolerating diuresis.
   - limit sedation as appropriate
   - TBB even, digoxin and diuresis as above
   ..
   #  Hypernatremia:  Free water deficit ~3 liters.  Cont free water
   flushes with TF today.
   .
   # DM2:
   - ISS
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-27**] 10:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-25**] 12:21 AM
   Prophylaxis:
   DVT:  SC heparin, SCDs
   Stress ulcer:   famotidine
   VAP:   cefepime, flagyl, fluc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 10**]

2139-01-28 10:18:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Awake, interactive, cooperative, able to commmunicate by writing
   Continues to exhibit copious secretions via ETT and oral secretions.
   Placed on lasix drip overnight, to promote net diuresis.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-27**] 04:15 PM
   Metronidazole - [**2139-1-28**] 04:56 AM
   Cefipime - [**2139-1-28**] 05:56 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-1-27**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-28**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-28**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 103 (96 - 111) bpm
   BP: 112/72(93) {83/43(56) - 140/106(112)} mmHg
   RR: 20 (7 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,569 mL
                                                                  2,437 mL
   PO:
             TF:
                                                                  1,176 mL
                                                                    496 mL
   IVF:
                                                                    733 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                  1,300 mL
   Urine:
                                                                  1,110 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,459 mL
                                                                  1,137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 296 (296 - 296) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.31/67/85.[**Numeric Identifier 433**]/30/4
   Ve: 7.9 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : right lung field, No(t) Diminished: , Absent : left,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   347 K/uL
   124 mg/dL
   2.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   58 mg/dL
   112 mEq/L
   146 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2139-1-25**]  07:45 PM
                             [**2139-1-26**]  03:42 AM
                             [**2139-1-26**]  04:19 AM
                             [**2139-1-26**]  04:48 PM
                             [**2139-1-27**]  02:35 AM
                             [**2139-1-27**]  04:36 AM
                             [**2139-1-27**]  01:50 PM
                             [**2139-1-27**]  11:35 PM
                             [**2139-1-28**]  05:23 AM
                             [**2139-1-28**]  05:32 AM
   WBC
   6.0
   6.9
   6.5
   Hct
   30.3
   30.8
   29.4
   Plt
   [**Telephone/Fax (3) 10486**]
   Cr
   3.0
   2.9
   2.8
   2.7
   2.5
   2.4
   TCO2
   35
   35
   32
   32
   35
   Glucose
   135
   134
   129
   118
   120
   124
   Other labs: PT / PTT / INR:16.4/36.9/1.5, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RUL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure.  Plan continue
   mechanical ventilation.  Continue empirical antimicrobials.  Monitor
   ABG.  Hope to be able to work towards SBT and extubation trial.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependent.  Now volume expanded.  Plan to monitor BP, maintian MAP >60
   mmHg.
   HYPERNATREMIA --Improved.  Continue to provide free water.  Monitror
   serial Na+.
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Plan local XRT to right
   hilum.  Oncology plans to consider chemotherapy if able to sustain
   extubation.
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- Likely attributable to iv contrast dye load.
   No plans for active net diuresis.  Renal dose all meds.  Monitor BUN,
   creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  HOpe
   to promote gentle net diuresis to mobilize fluids.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-27**] 10:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-25**] 12:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-29 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - flipped into Afib with RVR on his first trip to XRT
   - dropped his systolics to 70's on his second, bolused fluid back
   - after discussion with Pat, decided to diurese and support with
   phenylephrine.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2139-1-28**] 05:01 PM
 ARTERIAL LINE - START [**2139-1-28**] 10:38 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-1-28**] 05:56 AM
   Fluconazole - [**2139-1-28**] 04:00 PM
   Metronidazole - [**2139-1-29**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-28**] 08:16 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-28**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-29**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 87 (84 - 128) bpm
   BP: 102/60(75) {76/43(57) - 140/75(95)} mmHg
   RR: 21 (7 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  6,097 mL
                                                                  1,022 mL
   PO:
             TF:
                                                                  1,123 mL
                                                                    242 mL
   IVF:
                                                                  2,344 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    515 mL
   Urine:
                                                                  2,380 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,717 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 96%
   ABG: ///30/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI murmur at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R > L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   407 K/uL
   8.8 g/dL
   88 mg/dL
   1.9 mg/dL
   30 mEq/L
   4.0 mEq/L
   60 mg/dL
   109 mEq/L
   145 mEq/L
   28.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2139-1-26**]  04:48 PM
                             [**2139-1-27**]  02:35 AM
                             [**2139-1-27**]  04:36 AM
                             [**2139-1-27**]  01:50 PM
                             [**2139-1-27**]  11:35 PM
                             [**2139-1-28**]  05:23 AM
                             [**2139-1-28**]  05:32 AM
                             [**2139-1-28**]  10:47 AM
                             [**2139-1-28**]  04:46 PM
                             [**2139-1-29**]  04:18 AM
   WBC
   6.9
   6.5
   6.7
   Hct
   30.8
   29.4
   28.0
   Plt
   342
   347
   407
   Cr
   2.8
   2.7
   2.5
   2.4
   2.4
   2.1
   1.9
   TCO2
   32
   32
   35
   Glucose
   129
   118
   120
   124
   139
   127
   88
   Other labs: PT / PTT / INR:16.4/36.9/1.5, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  High peak pressures with lower plateaus suggest resistance ->
   tumor +/- secretions.
   - completes 8 day course of Cefepime, Flagyl, Fluconazole
   - cont digoxin to improve cardiac output in setting of decreased
   preload from right heart failure, level therapeutic
   - cont lasix gtt, and neo for pressor support, goal  (-) 1-2 liters
   - nebulizer standing and PRN
   - PSV trial daily
   .
   # AF with RVR: Pt first entered AF yesterday. Sponateneously converted.
   Suspected enlarged and dilated right atrium with volume overload were
   predisposing. Began more aggressive diuresis and has remained largely
   in sinus overnight.
   - cont Lasix gtt and neo
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fifth session today.
   - XRT as rescheduled today -> re: response, may see symptomatic
   improvement in [**7-18**] days, +/- radiographic improvement
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine slowly
   improving.
   - appreciate renal recs
   - goal 1-2L negative
   - renally dose meds
   - TID lytes during diuresis
   .
   # Hypotension/CHF:  Pt has intermittently required levophed. Last TTE
   with RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.  Currently on neo to enable diuresis.
   - limit sedation as appropriate
   - neo as above
   ..
   #  Hypernatremia:  Free water deficit initially ~3 liters.  Improving
   with frequent free water.
   - decrease free water flushes to 200cc q4h and monitor TID lytes
   .
   # DM2:
   - ISS
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-29**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-29 10:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Continues with copious oral secretions.
   Continues to experience intermittent A-fib yesterday afternoon and last
   PM, now resolved.
   Experienced hypotension yesterday, intermittent.  Received iv fliud
   boluses.
   Currently on neosinephrine and lasix drip resumed.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-28**] 04:00 PM
   Metronidazole - [**2139-1-29**] 04:00 AM
   Cefipime - [**2139-1-29**] 07:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-28**] 08:16 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-28**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-29**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 82 (82 - 128) bpm
   BP: 113/61(80) {76/43(57) - 125/70(90)} mmHg
   RR: 20 (20 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  6,097 mL
                                                                  1,905 mL
   PO:
             TF:
                                                                  1,123 mL
                                                                    391 mL
   IVF:
                                                                  2,344 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                  1,155 mL
   Urine:
                                                                  2,380 mL
                                                                  1,095 mL
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                  3,717 mL
                                                                    750 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 40 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: ///30/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: left
   (referred), No(t) Wheezes : , No(t) Diminished: , Absent : left, No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   407 K/uL
   88 mg/dL
   1.9 mg/dL
   30 mEq/L
   4.0 mEq/L
   60 mg/dL
   109 mEq/L
   145 mEq/L
   28.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2139-1-26**]  04:48 PM
                             [**2139-1-27**]  02:35 AM
                             [**2139-1-27**]  04:36 AM
                             [**2139-1-27**]  01:50 PM
                             [**2139-1-27**]  11:35 PM
                             [**2139-1-28**]  05:23 AM
                             [**2139-1-28**]  05:32 AM
                             [**2139-1-28**]  10:47 AM
                             [**2139-1-28**]  04:46 PM
                             [**2139-1-29**]  04:18 AM
   WBC
   6.9
   6.5
   6.7
   Hct
   30.8
   29.4
   28.0
   Plt
   342
   347
   407
   Cr
   2.8
   2.7
   2.5
   2.4
   2.4
   2.1
   1.9
   TCO2
   32
   32
   35
   Glucose
   129
   118
   120
   124
   139
   127
   88
   Other labs: PT / PTT / INR:16.4/36.9/1.5, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RLL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure.  Plan continue
   mechanical ventilation.  Continue empirical antimicrobials.  Monitor
   ABG.  Hope to be able to work towards SBT and extubation trial.  Reduce
   sedation during daytime.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependent.  Now volume expanded.  Plan to monitor BP, maintian MAP >60
   mmHg.  Vasopressor as needed.
   HYPERNATREMIA --Improved.  Continue to provide free water.  Monitror
   serial Na+.
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Plan local XRT to right
   hilum.  Oncology plans to consider chemotherapy if able to sustain
   extubation.
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- Likely attributable to iv contrast dye load.
   Continue plans for active net diuresis.  Renal dose all meds.  Monitor
   BUN, creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  Hope
   to promote gentle net diuresis to mobilize fluids --> lasix drip and
   vasopressor as needed.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-29**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-30 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - D/Ced abx
   - increased free water to 300 q4 and Na stabilized
   - lasix gtt 15/hr but still even to positive due to free water/TF
   - had last XRT
   - failed PSV, low VT (250) and RR>30 --> 7.25/77/74, ABG improved back
   on AC with increased MV
   - resent sputum cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-28**] 04:00 PM
   Metronidazole - [**2139-1-29**] 04:00 AM
   Cefipime - [**2139-1-29**] 07:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-1-29**] 10:00 PM
   Midazolam (Versed) - [**2139-1-30**] 04:10 AM
   Fentanyl - [**2139-1-30**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-30**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 95 (74 - 103) bpm
   BP: 97/69(80) {81/48(59) - 139/78(154)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,154 mL
                                                                  1,208 mL
   PO:
             TF:
                                                                  1,007 mL
                                                                    371 mL
   IVF:
                                                                    998 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  4,510 mL
                                                                  1,975 mL
   Urine:
                                                                  4,450 mL
                                                                  1,975 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -356 mL
                                                                   -767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (300 - 400) mL
   Vt (Spontaneous): 241 (213 - 241) mL
   PS : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 99
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   Compliance: 22.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/57/112/31/6
   Ve: 8.5 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   443 K/uL
   9.3 g/dL
   122 mg/dL
   1.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   58 mg/dL
   108 mEq/L
   149 mEq/L
   29.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-1-28**]  05:32 AM
                             [**2139-1-28**]  10:47 AM
                             [**2139-1-28**]  04:46 PM
                             [**2139-1-29**]  04:18 AM
                             [**2139-1-29**]  11:58 AM
                             [**2139-1-29**]  01:37 PM
                             [**2139-1-29**]  01:51 PM
                             [**2139-1-29**]  05:47 PM
                             [**2139-1-29**]  09:51 PM
                             [**2139-1-30**]  03:08 AM
   WBC
   6.7
   7.7
   Hct
   28.0
   29.9
   Plt
   407
   443
   Cr
   2.4
   2.1
   1.9
   1.8
   1.5
   1.5
   TCO2
   35
   35
   34
   34
   Glucose
   139
   127
   88
   118
   142
   122
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  We
   discussed tracheostomy as potential maneuver at some point.  Pt is
   undecided whether would want anything beyond limited XRT course."
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  High peak pressures with lower plateaus suggest resistance ->
   tumor +/- secretions.
   - completes 8 day course of Cefepime, Flagyl, Fluconazole
   - cont digoxin to improve cardiac output in setting of decreased
   preload from right heart failure, level therapeutic
   - cont lasix gtt, and neo for pressor support, goal  (-) 1-2 liters
   - nebulizer standing and PRN
   - PSV trial daily
   .
   # AF with RVR: Pt first entered AF yesterday. Sponateneously converted.
   Suspected enlarged and dilated right atrium with volume overload were
   predisposing. Began more aggressive diuresis and has remained largely
   in sinus overnight.
   - cont Lasix gtt and neo
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received three
   sessions of XRT.  Plan for fifth session today.
   - XRT as rescheduled today -> re: response, may see symptomatic
   improvement in [**7-18**] days, +/- radiographic improvement
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine slowly
   improving.
   - appreciate renal recs
   - goal 1-2L negative
   - renally dose meds
   - TID lytes during diuresis
   .
   # Hypotension/CHF:  Pt has intermittently required levophed. Last TTE
   with RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.  Currently on neo to enable diuresis.
   - limit sedation as appropriate
   - neo as above
   ..
   #  Hypernatremia:  Free water deficit initially ~3 liters.  Improving
   with frequent free water.
   - decrease free water flushes to 200cc q4h and monitor TID lytes
   .
   # DM2:
   - ISS
   .
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU, XRT today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-29**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-30 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Poor tolerance of IPS mode ventilation yesterday.
   Required vasopressors, now weaned to d/c this AM.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-28**] 04:00 PM
   Metronidazole - [**2139-1-29**] 04:00 AM
   Cefipime - [**2139-1-29**] 07:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-1-29**] 10:00 PM
   Midazolam (Versed) - [**2139-1-30**] 04:10 AM
   Fentanyl - [**2139-1-30**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-30**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 100 (74 - 103) bpm
   BP: 100/62(74) {81/48(59) - 139/78(154)} mmHg
   RR: 22 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,154 mL
                                                                  1,851 mL
   PO:
             TF:
                                                                  1,007 mL
                                                                    591 mL
   IVF:
                                                                    998 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  4,510 mL
                                                                  3,115 mL
   Urine:
                                                                  4,450 mL
                                                                  3,115 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -356 mL
                                                                 -1,264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (300 - 400) mL
   Vt (Spontaneous): 241 (241 - 241) mL
   PS : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 99
   PIP: 36 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/57/112/31/6
   Ve: 8.5 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Fatigued
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : left),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , Absent : left, Rhonchorous:
   right), Diffuse monophonic breath sounds on right
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   443 K/uL
   122 mg/dL
   1.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   58 mg/dL
   108 mEq/L
   149 mEq/L
   29.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-1-28**]  05:32 AM
                             [**2139-1-28**]  10:47 AM
                             [**2139-1-28**]  04:46 PM
                             [**2139-1-29**]  04:18 AM
                             [**2139-1-29**]  11:58 AM
                             [**2139-1-29**]  01:37 PM
                             [**2139-1-29**]  01:51 PM
                             [**2139-1-29**]  05:47 PM
                             [**2139-1-29**]  09:51 PM
                             [**2139-1-30**]  03:08 AM
   WBC
   6.7
   7.7
   Hct
   28.0
   29.9
   Plt
   407
   443
   Cr
   2.4
   2.1
   1.9
   1.8
   1.5
   1.5
   TCO2
   35
   35
   34
   34
   Glucose
   139
   127
   88
   118
   142
   122
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RLL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure.  Plan continue
   mechanical ventilation.  Continue empirical antimicrobials.  Monitor
   ABG.  Hope to be able to work towards SBT and extubation trial.  Reduce
   sedation during daytime.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependent.  Now volume expanded.  Plan to monitor BP, maintian MAP >60
   mmHg.  Vasopressor as needed.
   HYPERNATREMIA -- Recurrent, attributed to diuresis.  Continue to
   provide free water.  Monitror serial Na+.
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Local XRT to right
   hilum completed.  Oncology plans to consider chemotherapy if able to
   successfully extubate.
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- Likely attributable to iv contrast dye load.
   Continue plans for active net diuresis.  Renal dose all meds.  Monitor
   BUN, creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  Hope
   to promote gentle net diuresis to mobilize fluids --> lasix drip and
   vasopressor as needed.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-30**] 12:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-31 07:02:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure, NSCLC
   24 Hour Events:
    continued diuresis, repleted lytes, did not require neo during day or
   night
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-28**] 04:00 PM
   Metronidazole - [**2139-1-29**] 04:00 AM
   Cefipime - [**2139-1-29**] 07:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-30**] 09:54 PM
   Fentanyl - [**2139-1-31**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-1-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   c/o mild left shoulder/arm pain, throat feels better.  no other
   complaints
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-31**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 101 (89 - 108) bpm
   BP: 97/59(73) {75/52(61) - 121/101(108)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,828 mL
                                                                    869 mL
   PO:
             TF:
                                                                  1,262 mL
                                                                    349 mL
   IVF:
                                                                    622 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  5,645 mL
                                                                  1,240 mL
   Urine:
                                                                  5,645 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,817 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 121
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/58/126/37/11
   Ve: 9 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI systolic at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R > L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   428 K/uL
   8.8 g/dL
   126 mg/dL
   1.1 mg/dL
   37 mEq/L
   3.7 mEq/L
   55 mg/dL
   103 mEq/L
   143 mEq/L
   28.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-1-29**]  11:58 AM
                             [**2139-1-29**]  01:37 PM
                             [**2139-1-29**]  01:51 PM
                             [**2139-1-29**]  05:47 PM
                             [**2139-1-29**]  09:51 PM
                             [**2139-1-30**]  03:08 AM
                             [**2139-1-30**]  12:41 PM
                             [**2139-1-30**]  07:38 PM
                             [**2139-1-30**]  07:56 PM
                             [**2139-1-31**]  04:21 AM
   WBC
   7.7
   6.2
   Hct
   29.9
   28.6
   Plt
   443
   428
   Cr
   1.8
   1.5
   1.5
   1.3
   1.2
   1.1
   TCO2
   35
   34
   34
   39
   Glucose
   118
   142
   122
   147
   148
   126
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), LUNG
 DIABETES MELLITUS (DM), TYPE II
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection with fluconazole for yeast and
   penicillin for potential actinomycosis from previous cx at [**Hospital1 966**].  XRT
   started [**1-22**], 9 days ago we were told by rad-onc that if we would see
   improvement it would be at 7-10 days from initiation.  Patient has
   repeatedly refused trach.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  High peak pressures with lower plateaus suggest resistance ->
   tumor +/- secretions, possible response to XRT.
   - d/c
d abx
   - d/c
d digoxin given pause yesterday
   - cont lasix gtt, and neo for pressor support, goal  (-) 2-4 liters
   - nebulizer standing and PRN
   - Continue weaning trials
   .
   # AF with RVR: looks like still in AF, no RVR.  No events in pas 24
   hours.
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received all
   sessioins of XRT.
   - XRT completed -> re: response, may see symptomatic improvement in
   [**7-18**] days (7days is [**1-29**]), +/- radiographic improvement
   - will continue to d/w goals of care with patient, Heme-Onc, and
   Rad-Onc regarding goals of care, esp re: trach
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine normal.
   - appreciate renal recs
   - goal 2-4 L negative
   - renally dose meds
   - TID lytes during diuresis
   .
   # Hypotension/CHF:  Pt has intermittently required levophed. Last TTE
   with RV dysfunction and remarkable PA hypertension. Has compression of
   pulmonary arteries from lymphadenopathy. DDx includes intravascular
   depletion (as evident of bump in Cr, decreased UOP following diuresis),
   less likely to be septic, adrenal insufficieny. Cannot follow JVP given
   known high PA pressures [**2-10**] mass effect.  Right heart failure is likely
   causing poor left heart filling/preload and poor total cardiac output
   despite normal EF percentage.  Currently on neo to enable diuresis if
   needed.
   - limit sedation as appropriate
   - neo as above
   ..
   #  Hypernatremia:  Free water deficit initially ~3 liters.  Improving
   with frequent free water.
   - cont current free water bolues with TFs
   .
   # DM2:
   - ISS
   .
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-30**] 10:54 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: SC heparin, SCDs
   Stress ulcer:   famotidine
   VAP:  completed course
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2139-01-31 08:04:00 Physician Attending Progress Note
Chief Complaint: NSCLC, AIRWAY OBSTRUCTION, NEEDS XRT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see H&P for full details.  In brief, s/p L pneumonectomy, now
   w/R hilar NSCLC invovling bronchus and R PA, pulmonary HTN, and
   respiratory failure here for palliative XRT.
   24 Hour Events:
   - Diuresing on lasix gtt
   - Not requiring pressors
   - L arm and shoulder pain, improved with morphine and compresses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2139-1-28**] 04:00 PM
   Metronidazole - [**2139-1-29**] 04:00 AM
   Cefipime - [**2139-1-29**] 07:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-1-30**] 09:54 PM
   Fentanyl - PRN
   Heparin Sodium (Prophylaxis) - [**2139-1-31**] 06:00 AM
   Other medications:
   K, Mg and Phos repletion, Lipitor, singulair, colace, ipratropium and
   albuterol, morphine PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-31**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 101 (89 - 108) bpm
   BP: 97/59(73) {75/52(61) - 121/101(108)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,828 mL
                                                                    932 mL
   PO:
             TF:
                                                                  1,262 mL
                                                                    398 mL
   IVF:
                                                                    622 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  5,645 mL
                                                                  1,240 mL
   Urine:
                                                                  5,645 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,817 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 121
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/58/126/37/11
   Ve: 9 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Subconjuctival hemorrhage on R
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2:,Loud), S3
   Peripheral Vascular: 2+ DP bilat
   Respiratory / Chest: (Expansion: R>L), (Breath Sounds: Bronchial: ,
   Wheezes : Monophonic)
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Tender:
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, R Shoulder TTP
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   428 K/uL
   126 mg/dL
   1.1 mg/dL
   37 mEq/L
   3.7 mEq/L
   55 mg/dL
   103 mEq/L
   143 mEq/L
   28.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-1-29**]  11:58 AM
                             [**2139-1-29**]  01:37 PM
                             [**2139-1-29**]  01:51 PM
                             [**2139-1-29**]  05:47 PM
                             [**2139-1-29**]  09:51 PM
                             [**2139-1-30**]  03:08 AM
                             [**2139-1-30**]  12:41 PM
                             [**2139-1-30**]  07:38 PM
                             [**2139-1-30**]  07:56 PM
                             [**2139-1-31**]  04:21 AM
   WBC
   7.7
   6.2
   Hct
   29.9
   28.6
   Plt
   443
   428
   Cr
   1.8
   1.5
   1.5
   1.3
   1.2
   1.1
   TCO2
   35
   34
   34
   39
   Glucose
   118
   142
   122
   147
   148
   126
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   CXR
 ETT in position, R mid line in distal subclavian, stable R
   basilar opacity
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE
 Multifactorial, likely due to
   obstructing R hilar mass and post-obstructive PNA.  On lasix gtt to
   optimize volume status, finished course of antibiotics for PNA, s/p IP
   stenting.  Currently w/scant oral secretions.
   - Trial on PSV
   - Diuresis
   - Follow secretions
 PULMONARY HYPERTENSION, VOLUME OVERLOAD
 Finally making progress on
   diuresis but still volume up and markedly positive over the admission.
   Had some pauses w/suctioning, so digoxin stopped.
   - Lasix gtt, goal I/O -1-2L
   - Use neo for BP support if needed
 ATRIAL FIBRILLATION
 Briefly in afib w/RVR, currently in NSR.
   - Follow rhythm
   - Holding on anticoagulation at present
 HYPOTENSION
 Likely secondary to R-heart failure
   - Diuresis to improve LV function (given ventricular interdependence)
   - Pressors to support diuresis.
 PNEUMONIA, OTHER
 Post obstructive PNA, s/p a course of antibiotics,
   currently minimal secretions, stable CXR.
 RENAL FAILURE, ACUTE
 Cr peaked at ~3, likely CIN, now markedly
   improved.
   - Follow UOP, lytes, BUN, Cr
 LUNG CANCER
 S/p palliative XRT for R hilar mass
   - Heme/Onc following, appreciate input
 DIABETES MELLITUS, TYPE II
 Follow finger sticks
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-30**] 10:54 PM 50 mL/hour
   Glycemic Control:  Finger sticks, insulin if needed
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: pepcid
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  Comments: w/family and patient
   Code status: Full code
   Disposition : MICU for now
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-01 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - seemed to be auto-peeping on Pressure support,
   improved on CMV
   - diuresed well all day
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-1-29**] 07:00 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2139-1-31**] 08:14 AM
   Famotidine (Pepcid) - [**2139-1-31**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-1**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-1**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 101 (95 - 108) bpm
   BP: 69/45(53) {69/45(53) - 156/131(141)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,604 mL
                                                                    802 mL
   PO:
             TF:
                                                                  1,181 mL
                                                                    271 mL
   IVF:
                                                                    488 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,045 mL
                                                                  1,155 mL
   Urine:
                                                                  4,045 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,441 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 127
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/64/107/38/11
   Ve: 8.8 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI systolic at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R > L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin: 1+ peripheral edema, LUE more edematous than RUE (BP cuff located
   on left)
   Neurologic: responds appropriately to questions, follows commands
   Labs / Radiology
   425 K/uL
   8.8 g/dL
   135 mg/dL
   1.1 mg/dL
   38 mEq/L
   3.5 mEq/L
   55 mg/dL
   103 mEq/L
   146 mEq/L
   27.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-1-29**]  09:51 PM
                             [**2139-1-30**]  03:08 AM
                             [**2139-1-30**]  12:41 PM
                             [**2139-1-30**]  07:38 PM
                             [**2139-1-30**]  07:56 PM
                             [**2139-1-31**]  04:21 AM
                             [**2139-1-31**]  10:50 AM
                             [**2139-1-31**]  10:57 AM
                             [**2139-1-31**]  05:05 PM
                             [**2139-2-1**]  03:21 AM
   WBC
   7.7
   6.2
   6.2
   Hct
   29.9
   28.6
   27.3
   Plt
   [**Telephone/Fax (3) 10550**]
   Cr
   1.5
   1.5
   1.3
   1.2
   1.1
   1.1
   1.1
   1.1
   TCO2
   39
   41
   Glucose
   142
   122
   147
   148
   126
   149
   148
   135
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt "desires to have a limited course of XRT on the hope that it
   will enable extubation.  Additionally, it will allow time to
   potentially treat pulmonary infection.  XRT started [**1-22**], now reaching
   cut-off for seeing improvement.  Patient has repeatedly refused trach.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  ET secretions have been improving, althought pt has oral
   secretions. Will try scopolamine. Will continue to aggressively diurese
   while awaiting effects of XRT.
   - scopolamine patch
   - cont PSV trials, daily RSBI
   - d/c
d abx, monitor for fever or leukocytosis
   - d/c
d digoxin given pauses
   - cont lasix gtt, goal  (-) 2-4 liters daily, BUN/Cr cont to decrease,
   will monitor alkalosis and replete KCl with diuresis
   - nebulizer standing and PRN
   .
   # AF with RVR: currently in sinus
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received all
   sessioins of XRT. [**Month (only) 11**] take several more days to see improvement.
   - plan for optimization of respiratory factors within the week and
   multi-team fam mtg re: goals of care after that point
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine now
   normal. Renal signed off.
   - goal 2-4 L negative
   - renally dose meds
   - PM lytes during diuresis
   .
   # Hypotension/CHF:  TTE showed RV dysfunction and remarkable PA
   hypertension. Has compression of pulmonary arteries from
   lymphadenopathy. Has not required neo for past 24 hours, seems that
   diuresis has improved filling pressures and forward flow.
   ..
   #  Hypernatremia:  Stable at 146 with frequent free water.
   - cont current free water bolues with TFs and monitor Na
   .
   # DM2:
   - ISS
   .
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-1-30**] 10:54 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: SC heparin, SCDs
   Stress ulcer:   famotidine
   VAP:  completed course
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2139-02-01 08:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, NSCLC
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for details.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-1-31**] 08:14 AM
   Famotidine (Pepcid) - [**2139-1-31**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-1**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-1**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 98 (95 - 108) bpm
   BP: 89/53(65) {69/45(53) - 156/131(141)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.9 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,604 mL
                                                                  1,117 mL
   PO:
             TF:
                                                                  1,181 mL
                                                                    345 mL
   IVF:
                                                                    488 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  4,045 mL
                                                                  1,155 mL
   Urine:
                                                                  4,045 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,441 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 127
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/64/107/38/11
   Ve: 8.8 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, R subconjunctival hemorrhage
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : Monophonic,
   R sided)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   Person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   425 K/uL
   135 mg/dL
   1.1 mg/dL
   38 mEq/L
   3.5 mEq/L
   55 mg/dL
   103 mEq/L
   146 mEq/L
   27.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-1-29**]  09:51 PM
                             [**2139-1-30**]  03:08 AM
                             [**2139-1-30**]  12:41 PM
                             [**2139-1-30**]  07:38 PM
                             [**2139-1-30**]  07:56 PM
                             [**2139-1-31**]  04:21 AM
                             [**2139-1-31**]  10:50 AM
                             [**2139-1-31**]  10:57 AM
                             [**2139-1-31**]  05:05 PM
                             [**2139-2-1**]  03:21 AM
   WBC
   7.7
   6.2
   6.2
   Hct
   29.9
   28.6
   27.3
   Plt
   [**Telephone/Fax (3) 10550**]
   Cr
   1.5
   1.5
   1.3
   1.2
   1.1
   1.1
   1.1
   1.1
   TCO2
   39
   41
   Glucose
   142
   122
   147
   148
   126
   149
   148
   135
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE
 HYPOTENSION
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE
 LUNG CANCER
 DIABETES MELLITUS, TYPE II
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-1**] 01:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2139-02-02 07:00:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure, NSCLC
   24 Hour Events:
   - had 1L oral secretions, placed scopolamine patch
   - OOB to chair to watch game so no SBT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-1**] 07:52 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   comfortable, denies pain this A.M., no change in vision, (-) n/v/d/f/c
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-2-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 100 (84 - 103) bpm
   BP: 95/56(65) {95/56(65) - 106/75(81)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,180 mL
                                                                    659 mL
   PO:
             TF:
                                                                  1,096 mL
                                                                    346 mL
   IVF:
                                                                    624 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  5,705 mL
                                                                  1,070 mL
   Urine:
                                                                  4,705 mL
                                                                  1,070 mL
   NG:
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,525 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 309 (309 - 309) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: ///39/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, conjunctival hemorrhage on right
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S4, III/VI systolic murmur
   at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   418 K/uL
   8.9 g/dL
   127 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.2 mEq/L
   49 mg/dL
   101 mEq/L
   147 mEq/L
   28.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-1-30**]  12:41 PM
                             [**2139-1-30**]  07:38 PM
                             [**2139-1-30**]  07:56 PM
                             [**2139-1-31**]  04:21 AM
                             [**2139-1-31**]  10:50 AM
                             [**2139-1-31**]  10:57 AM
                             [**2139-1-31**]  05:05 PM
                             [**2139-2-1**]  03:21 AM
                             [**2139-2-1**]  02:31 PM
                             [**2139-2-2**]  03:23 AM
   WBC
   6.2
   6.2
   6.2
   Hct
   28.6
   27.3
   28.0
   Plt
   428
   425
   418
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   1.1
   1.0
   1.0
   TCO2
   39
   41
   Glucose
   147
   148
   126
   149
   148
   135
   139
   127
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Microbiology: Bacillus, 1+, in sputum
   all other culture data (-) to date
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 HYPERNATREMIA (HIGH SODIUM)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt desires to have a limited course of XRT on the hope that it will
   enable extubation.  Additionally, it will allow time to potentially
   treat pulmonary infection.  XRT started [**1-22**], now reaching cut-off for
   seeing improvement.  Patient has repeatedly refused trach.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  ET secretions have been improving, althought pt has oral
   secretions. Will try scopolamine. Will continue to aggressively diurese
   while awaiting effects of XRT.
   - cont scopolamine patch
   - cont PSV trials, daily RSBI
   - d/c
d abx, monitor for fever or leukocytosis
   - d/c
d digoxin given pauses
   - cont lasix gtt, goal  (-) 2-4 liters daily, BUN/Cr cont to decrease,
   will monitor alkalosis and replete KCl with diuresis
   - nebulizer standing and PRN
   - will check ABG today
   .
   # AF with RVR: currently in sinus.  Cont telemetry
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received all
   sessioins of XRT. [**Month (only) 11**] take several more days to see improvement.
   - plan for optimization of respiratory factors within the week and
   multi-team fam mtg re: goals of care after that point
   - will d/w rad onc re: need for repeat CT chest
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine now
   normal. Renal signed off.  Phenylephrine to assist with diuresis if
   hypotension recurs.
   - goal 2-4 L negative
   - renally dose meds
   - PM lytes during diuresis
   .
   # Hypotension/CHF:  TTE showed RV dysfunction and remarkable PA
   hypertension. Has compression of pulmonary arteries from
   lymphadenopathy. Has not required neo for past 24 hours, seems that
   diuresis has improved filling pressures and forward flow.
   ..
   #  Hypernatremia:  Stable at 146 with frequent free water.
   - cont current free water bolues with TFs and monitor Na
   .
   # DM2:
   - ISS
   .
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 6555**] [**Name2 (NI) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-2**] 12:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT:   SC heparin, SCDs
   Stress ulcer:   famotidine
   VAP:   none, treated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 10**]

2139-02-02 12:26:00 Physician Attending Progress Note
Chief Complaint: REspiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on lasix drip over weekend.
   Vasopressors now off.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-1**] 07:52 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema, Right
   conjunctival hemorrhage
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-2**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (84 - 103) bpm
   BP: 89/59(65) {89/56(64) - 106/75(81)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,180 mL
                                                                  1,767 mL
   PO:
             TF:
                                                                  1,096 mL
                                                                    603 mL
   IVF:
                                                                    624 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  5,705 mL
                                                                  1,740 mL
   Urine:
                                                                  4,705 mL
                                                                  1,740 mL
   NG:
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,525 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 309 (309 - 309) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 38.8 cmH2O/mL
   SpO2: 95%
   ABG: ///39/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , Absent : Left, Rhonchorous: Right)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   418 K/uL
   127 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.2 mEq/L
   49 mg/dL
   101 mEq/L
   147 mEq/L
   28.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-1-30**]  12:41 PM
                             [**2139-1-30**]  07:38 PM
                             [**2139-1-30**]  07:56 PM
                             [**2139-1-31**]  04:21 AM
                             [**2139-1-31**]  10:50 AM
                             [**2139-1-31**]  10:57 AM
                             [**2139-1-31**]  05:05 PM
                             [**2139-2-1**]  03:21 AM
                             [**2139-2-1**]  02:31 PM
                             [**2139-2-2**]  03:23 AM
   WBC
   6.2
   6.2
   6.2
   Hct
   28.6
   27.3
   28.0
   Plt
   428
   425
   418
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   1.1
   1.0
   1.0
   TCO2
   39
   41
   Glucose
   147
   148
   126
   149
   148
   135
   139
   127
   Other labs: PT / PTT / INR:15.7/35.5/1.4, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RLL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure, COPD.  Plan
   continue mechanical ventilation.  Continue empirical antimicrobials.
   Monitor ABG.  Hope to be able to work towards SBT and extubation
   trial.  Reduce sedation during daytime.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependen.  Good response to net diuresis.  Now volume expanded.  Plan
   to monitor BP, maintain MAP >60 mmHg.
   HYPERNATREMIA -- Recurrent, attributed to diuresis.  Continue to
   provide free water.  Monitror serial Na+.
   HYPOKALEMIA -- attributed to diuresis.  Aggressively replete to K>4.0
   METABOLIC ALKALOSIS -- attributed to vigorous net diuresis.
   Aggresively replete Cl (as KCl).
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Local XRT to right
   hilum completed.  Oncology plans to consider chemotherapy if able to
   successfully extubate.  Consider repeat chest imaging (CT).
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- Likely attributable to iv contrast dye load.
   Much improved.  Continue plans for active net diuresis.  Renal dose all
   meds.  Monitor BUN, creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  Plan
   to continue net diuresis to mobilize fluids --> lasix drip (and
   vasopressor as needed).  Aim for goal ~2 L net negative.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-2**] 12:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-02-03 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued diuresis
   - advanced ET tube
   - PSV trial afternoon/evening, tolerating well, at 12/5
   - started metolazone overnight, aggressively repleted KCl for metabolic
   alkalosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-2**] 08:00 PM
   Lorazepam (Ativan) - [**2139-2-2**] 08:10 PM
   Fentanyl - [**2139-2-2**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-2**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-3**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 97 (88 - 108) bpm
   BP: 93/55(68) {75/52(64) - 144/100(121)} mmHg
   RR: 20 (0 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
              LOS - +18
   Total In:
                                                                  3,282 mL
                                                                    945 mL
   PO:
                       TF:
                                                                  1,200 mL
                                                                    325 mL
   IVF:
                                                                    462 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  3,985 mL
                                                                  1,770 mL
   Urine:
                                                                  3,285 mL
                                                                  1,770 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                   -703 mL
                                                                   -825 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 788 (345 - 788) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35.4 cmH2O/mL
   SpO2: 98%
   ABG: ///40/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, conjunctival hemorrhage on right
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S4, III/VI systolic murmur
   at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   429 K/uL
   8.9 g/dL
   132 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.3 mEq/L
   46 mg/dL
   100 mEq/L
   148 mEq/L
   27.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2139-1-31**]  04:21 AM
                             [**2139-1-31**]  10:50 AM
                             [**2139-1-31**]  10:57 AM
                             [**2139-1-31**]  05:05 PM
                             [**2139-2-1**]  03:21 AM
                             [**2139-2-1**]  02:31 PM
                             [**2139-2-2**]  03:23 AM
                             [**2139-2-2**]  02:32 PM
                             [**2139-2-2**]  10:17 PM
                             [**2139-2-3**]  03:42 AM
   WBC
   6.2
   6.2
   6.2
   6.3
   Hct
   28.6
   27.3
   28.0
   27.9
   Plt
   428
   425
   418
   429
   Cr
   1.1
   1.1
   1.1
   1.1
   1.0
   1.0
   0.9
   1.0
   0.9
   TCO2
   41
   Glucose
   126
   149
   148
   135
   139
   127
   151
   129
   132
   Other labs: PT / PTT / INR:14.4/33.1/1.2, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt desires to have a limited course of XRT on the hope that it will
   enable extubation.  Additionally, it will allow time to potentially
   treat pulmonary infection.  XRT started [**1-22**], now reaching cut-off for
   seeing improvement.  Patient has repeatedly refused trach.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  ET secretions have been improving, althought pt has oral
   secretions. Will try scopolamine. Will continue to aggressively diurese
   while awaiting effects of XRT.
   .
   - cont scopolamine patch
   - cont PSV trials, daily RSBI
   - d/c
d abx, monitor for fever or leukocytosis
   - d/c
d digoxin given pauses
   - cont lasix gtt, goal  (-) 2-4 liters daily, BUN/Cr cont to decrease,
   will monitor alkalosis and replete KCl with diuresis
   - nebulizer standing and PRN
   - will check ABG today
   .
   #Non-Gap Metabolic Acidosis
  Continue to repleat chloride via KCL, as
   Bicarb of 40 is likely [**2-10**] diuretic induced chloride wasting, on top of
   chronic CO2 retention.
   .
   # AF with RVR: currently in sinus.  Cont telemetry
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received all
   sessioins of XRT. [**Month (only) 11**] take several more days to see improvement.
   - plan for optimization of respiratory factors within the week and
   multi-team fam mtg re: goals of care after that point
   - Rad Onc says no need for repeat CT
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine now
   normal. Renal signed off.  Phenylephrine to assist with diuresis if
   hypotension recurs.
   - goal 2-4 L negative
   - renally dose meds
   - PM lytes during diuresis
   .
   # Hypotension/CHF:  TTE showed RV dysfunction and remarkable PA
   hypertension. Has compression of pulmonary arteries from
   lymphadenopathy. Has not required neo for past 24 hours, seems that
   diuresis has improved filling pressures and forward flow.
   ..
   #  Hypernatremia:  Currently 148 with frequent free water.
   - cont current free water bolues with TFs and monitor Na
   .
   # DM2:
   - ISS
   .
   # CODE: FULL
   # CONTACT:
   # DISPO: ICU
   .
   ICU Care
   Nutrition: TFs
   Nutren Pulmonary (Full) - [**2139-2-2**] 12:00 AM 50 mL/hour
   Glycemic Control:
   .
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-3**] 03:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: SC heparin, SCDs
   Stress ulcer: famotidine
   Communication:  [**First Name8 (NamePattern2) 6555**] [**Location (un) 10294**] [**Telephone/Fax (1) 10295**], girlfriend
   [**Name (NI) 129**] status: Full code
   Disposition:  ICU

2139-02-03 11:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating net diuresis on lasix infusion.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-2**] 08:00 PM
   Lorazepam (Ativan) - [**2139-2-2**] 08:10 PM
   Fentanyl - [**2139-2-2**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-2**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-3**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 94 (88 - 108) bpm
   BP: 101/62(76) {75/53(66) - 144/90(121)} mmHg
   RR: 22 (0 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,282 mL
                                                                  2,101 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    579 mL
   IVF:
                                                                    462 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  3,985 mL
                                                                  3,785 mL
   Urine:
                                                                  3,285 mL
                                                                  3,785 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                   -703 mL
                                                                 -1,684 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 788 (345 - 788) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 99%
   ABG: ///40/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: , Wheezes
   : right, Diminished: left, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   429 K/uL
   132 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.3 mEq/L
   46 mg/dL
   100 mEq/L
   148 mEq/L
   27.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2139-1-31**]  04:21 AM
                             [**2139-1-31**]  10:50 AM
                             [**2139-1-31**]  10:57 AM
                             [**2139-1-31**]  05:05 PM
                             [**2139-2-1**]  03:21 AM
                             [**2139-2-1**]  02:31 PM
                             [**2139-2-2**]  03:23 AM
                             [**2139-2-2**]  02:32 PM
                             [**2139-2-2**]  10:17 PM
                             [**2139-2-3**]  03:42 AM
   WBC
   6.2
   6.2
   6.2
   6.3
   Hct
   28.6
   27.3
   28.0
   27.9
   Plt
   428
   425
   418
   429
   Cr
   1.1
   1.1
   1.1
   1.1
   1.0
   1.0
   0.9
   1.0
   0.9
   TCO2
   41
   Glucose
   126
   149
   148
   135
   139
   127
   151
   129
   132
   Other labs: PT / PTT / INR:14.4/33.1/1.2, ALT / AST:[**7-29**], Alk Phos / T
   Bili:111/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RLL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure, COPD.  Plan
   continue mechanical ventilation.  Continue empirical antimicrobials.
   Monitor ABG.  Hope to be able to work towards SBT and extubation
   trial.  Reduce sedation during daytime.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependen.  Good response to net diuresis.  Now volume expanded.  Plan
   to monitor BP, maintain MAP >60 mmHg.
   HYPERNATREMIA -- Recurrent, attributed to diuresis.  Continue to
   provide free water.  Monitror serial Na+.
   HYPOKALEMIA -- attributed to diuresis.  Aggressively replete to K>4.0
   METABOLIC ALKALOSIS -- attributed to vigorous net diuresis.
   Aggresively replete Cl (as KCl).
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Local XRT to right
   hilum completed.  Oncology plans to consider chemotherapy if able to
   successfully extubate.  Consider repeat chest imaging (CT).
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- Likely attributable to iv contrast dye load.
   Much improved.  Continue plans for active net diuresis.  Renal dose all
   meds.  Monitor BUN, creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  Plan
   to continue net diuresis to mobilize fluids --> lasix drip (and
   vasopressor as needed).  Aim for goal ~2 L net negative.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-3**] 03:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-04 08:23:00 Physician Resident Progress Note
Chief Complaint: NSCLC, hypoxic resp failure
   24 Hour Events:
 EKG - At [**2139-2-4**] 04:31 AM
   tachypneic on 0/5
   -did well on [**5-18**]
   -c/o right sided chest pain around 5AM, EKG unremarkable, CXR....
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2139-2-4**] 03:45 AM
   Morphine Sulfate - [**2139-2-4**] 04:31 AM
   Other medications:
   Changes to medical and family history:
   right chest pain improved this morning
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley, (-) dyspnea, (-) n/v/d/f/c
   Flowsheet Data as of  [**2139-2-4**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 111 (92 - 114) bpm
   BP: 98/63(73) {76/54(65) - 127/97(100)} mmHg
   RR: 28 (12 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,170 mL
                                                                  1,385 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    418 mL
   IVF:
                                                                    480 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  6,960 mL
                                                                  2,250 mL
   Urine:
                                                                  6,960 mL
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,790 mL
                                                                   -865 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 364 (272 - 381) mL
   PS : 14 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.50/66/89.[**Numeric Identifier 433**]/46/23
   Ve: 8.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: left > right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   [**Numeric Identifier 610**] / Radiology
   406 K/uL
   9.4 g/dL
   137 mg/dL
   1.0 mg/dL
   46 mEq/L
   3.8 mEq/L
   45 mg/dL
   90 mEq/L
   143 mEq/L
   30.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-2-1**]  03:21 AM
                             [**2139-2-1**]  02:31 PM
                             [**2139-2-2**]  03:23 AM
                             [**2139-2-2**]  02:32 PM
                             [**2139-2-2**]  10:17 PM
                             [**2139-2-3**]  03:42 AM
                             [**2139-2-3**]  02:16 PM
                             [**2139-2-3**]  02:32 PM
                             [**2139-2-4**]  03:28 AM
                             [**2139-2-4**]  03:41 AM
   WBC
   6.2
   6.2
   6.3
   7.2
   Hct
   27.3
   28.0
   27.9
   30.2
   Plt
   [**Telephone/Fax (3) 10594**]06
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   0.9
   1.0
   1.0
   TropT
   0.02
   TCO2
   49
   53
   Glucose
   135
   139
   127
   151
   129
   132
   140
   137
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:14.4/33.1/1.2, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 HYPERNATREMIA (HIGH SODIUM)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt desires to have a limited course of XRT on the hope that it will
   enable extubation.  Additionally, it will allow time to potentially
   treat pulmonary infection.  XRT started [**1-22**], now reaching cut-off for
   seeing improvement.  Patient has repeatedly refused trach.  Will
   discuss goals today.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  ET secretions have been improving, althought pt has oral
   secretions. Will try scopolamine. Will continue to aggressively diurese
   while awaiting effects of XRT.
   - cont scopolamine patch
   - cont PSV trials, daily RSBI
   - d/c
d abx, monitor for fever or leukocytosis
   - d/c
d digoxin given pauses
   - cont lasix gtt with metolazone, goal  (-) 2 to 4 liters daily, BUN/Cr
   cont to decrease, will monitor alkalosis and replete KCl with diuresis
   - nebulizer standing and PRN
   - will check ABG daily
   - will check BNP to compare and assess volume status
   .
   #Non-Gap Metabolic Alkalosis
  Continue to repleat chloride via KCL,
   as Bicarb of 40 is likely [**2-10**] diuretic induced chloride wasting, on top
   of chronic CO2 retention.
   - PRN acetazolamide
   .
   # AF with RVR: currently in sinus.  Cont telemetry
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received all
   sessioins of XRT. [**Month (only) 11**] take several more days to see improvement.
   - plan for optimization of respiratory factors within the week and
   multi-team fam mtg re: goals of care after that point
   - Rad Onc says no need for repeat CT, will not change decision to
   extubate
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine now
   normal. Renal signed off.  Phenylephrine to assist with diuresis if
   hypotension recurs.
   - goal 2-4 L negative
   - renally dose meds
   - PM lytes during diuresis
   .
   # Hypotension/CHF:  TTE showed RV dysfunction and remarkable PA
   hypertension. Has compression of pulmonary arteries from
   lymphadenopathy. Has not required neo for past 24 hours, seems that
   diuresis has improved filling pressures and forward flow.
   ..
   #  Hypernatremia:  Currently 143 with frequent free water.
   - cont current free water bolues with TFs and monitor Na
   .
   #  Right-sided chest pain- reproducible on palpation, likely
   musculoskeletal.
   -  morphine PRN
   .
   # DM2:
   - ISS
   .
   # CODE: FULL
   # CONTACT:  [**Name (NI) 6555**], significant other
   # DISPO: ICU
   .
   ICU Care
   Nutrition: TFs
   Nutren Pulmonary (Full) - [**2139-2-2**] 12:00 AM 50 mL/hour
   Glycemic Control:
   .
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-3**] 05:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2139-02-04 12:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Appears comfortable.  Alert.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-2-4**] 03:45 AM
   Morphine Sulfate - [**2139-2-4**] 04:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-4**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 101 (96 - 114) bpm
   BP: 105/65(78) {76/54(65) - 127/97(100)} mmHg
   RR: 24 (0 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,170 mL
                                                                  1,723 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    449 mL
   IVF:
                                                                    480 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  6,960 mL
                                                                  2,910 mL
   Urine:
                                                                  6,960 mL
                                                                  2,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,790 mL
                                                                 -1,187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (312 - 381) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.50/66/89.[**Numeric Identifier 433**]/46/23
   Ve: 7.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : Left),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Right, No(t) Diminished: , Absent : Left, No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Able to communicate with [**Name (NI) 10596**]
   [**Name (NI) 610**] / Radiology
   9.4 g/dL
   406 K/uL
   137 mg/dL
   1.0 mg/dL
   46 mEq/L
   3.8 mEq/L
   45 mg/dL
   90 mEq/L
   143 mEq/L
   30.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-2-1**]  03:21 AM
                             [**2139-2-1**]  02:31 PM
                             [**2139-2-2**]  03:23 AM
                             [**2139-2-2**]  02:32 PM
                             [**2139-2-2**]  10:17 PM
                             [**2139-2-3**]  03:42 AM
                             [**2139-2-3**]  02:16 PM
                             [**2139-2-3**]  02:32 PM
                             [**2139-2-4**]  03:28 AM
                             [**2139-2-4**]  03:41 AM
   WBC
   6.2
   6.2
   6.3
   7.2
   Hct
   27.3
   28.0
   27.9
   30.2
   Plt
   [**Telephone/Fax (3) 10594**]06
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   0.9
   1.0
   1.0
   TropT
   0.02
   TCO2
   49
   53
   Glucose
   135
   139
   127
   151
   129
   132
   140
   137
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:14.4/33.1/1.2, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RLL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure, COPD.  Plan
   continue mechanical ventilation.  Continue empirical antimicrobials.
   Monitor ABG.  Hope to be able to work towards SBT and extubation
   trial.  Reduce sedation during daytime.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependen.  Good response to net diuresis.  Plan to monitor BP, maintain
   MAP >60 mmHg.
   HYPERNATREMIA -- Recurrent, attributed to diuresis.  Continue to
   provide free water.  Monitror serial Na+.
   HYPOKALEMIA -- attributed to diuresis.  Aggressively replete to K>4.0
   METABOLIC ALKALOSIS -- attributed to vigorous net diuresis.
   Aggresively replete Cl (as KCl).
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Local XRT to right
   hilum completed.  Oncology plans to consider chemotherapy if able to
   successfully extubate.  Consider repeat chest imaging (CT).
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- iv contrast dye induced.  Much improved.
   Continue plans for active net diuresis.  Renal dose all meds.  Monitor
   BUN, creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  Plan
   to continue net diuresis to mobilize fluids --> lasix drip (and
   vasopressor as needed).  Aim for goal ~2 L net negative.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-05 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dr. [**Last Name (STitle) 4664**] (ethics) saw patient for palliative care
   - Noted to have ST elevations on tele, EKG checked positive for diffuse
   ST-elevations. NOT complaining of new chest pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-4**] 02:00 PM
   Morphine Sulfate - [**2139-2-4**] 03:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-5**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 97 (89 - 114) bpm
   BP: 126/97(106) {70/54(64) - 145/116(126)} mmHg
   RR: 20 (0 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
              14L + LOS
   Total In:
                                                                  3,535 mL
                                                                    636 mL
   PO:
                       TF:
                                                                  1,203 mL
                                                                    364 mL
   IVF:
                                                                    532 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  4,510 mL
                                                                  1,750 mL
   Urine:
                                                                  4,510 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -975 mL
                                                                 -1,114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (348 - 399) mL
   PS : 14 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///46/
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: left > right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   366 K/uL
   9.3 g/dL
   142 mg/dL
   1.1 mg/dL
   46 mEq/L
   3.4 mEq/L
   49 mg/dL
   88 mEq/L
   138 mEq/L
   28.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2139-2-2**]  03:23 AM
                             [**2139-2-2**]  02:32 PM
                             [**2139-2-2**]  10:17 PM
                             [**2139-2-3**]  03:42 AM
                             [**2139-2-3**]  02:16 PM
                             [**2139-2-3**]  02:32 PM
                             [**2139-2-4**]  03:28 AM
                             [**2139-2-4**]  03:41 AM
                             [**2139-2-4**]  05:29 PM
                             [**2139-2-5**]  05:20 AM
   WBC
   6.2
   6.3
   7.2
   8.2
   Hct
   28.0
   27.9
   30.2
   28.4
   Plt
   [**Telephone/Fax (3) 10603**]66
   Cr
   1.0
   0.9
   1.0
   0.9
   1.0
   1.0
   1.1
   1.1
   TropT
   0.02
   0.03
   TCO2
   49
   53
   Glucose
   127
   151
   129
   132
   140
   137
   148
   142
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:36/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   #ST elevation:  EKG checked, more concerning for Pericarditis than
   STEMI as elevations are diffuse, and PR is depressed.  Code STEMI was
   called, Heparin bolus and drip, high dose Atorva, Full dose ASA, 600 of
   Plavix, beta blockers.
   - transfer west for cath.
   - stopped lasix
   .
   # Goals of Care: Per meeting with ICU attending (Dr. [**Last Name (STitle) 323**] on [**1-21**],
   the pt desires to have a limited course of XRT on the hope that it will
   enable extubation.  Additionally, it will allow time to potentially
   treat pulmonary infection.  XRT started [**1-22**], now reaching cut-off for
   seeing improvement.  Patient has repeatedly refused trach.  Will
   discuss goals today.
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely multifactorial, [**2-10**] NSCLC, VAP, and right heart CHF with severe
   PA HTN. Barriers to extubation are copious secretions and right heart
   failure.  ET secretions have been improving, althought pt has oral
   secretions. Will try scopolamine. Will continue to aggressively diurese
   while awaiting effects of XRT.
   - cont scopolamine patch
   - cont PSV trials, daily RSBI
   - d/c
d abx, monitor for fever or leukocytosis
   - d/c
d digoxin given pauses
   - Stopped lasix given risk of pre-load dependant right sided MI
   - nebulizer standing and PRN
   - will check ABG daily
   - will check BNP to compare and assess volume status
   .
   #Non-Gap Metabolic Alkalosis
  Continue to repleat chloride via KCL,
   as Bicarb of 46 is likely [**2-10**] diuretic induced chloride wasting, on top
   of chronic CO2 retention.
   - Stopped lasix today
   - Continue acetazolamide
   .
   # AF with RVR: currently in sinus.  Cont telemetry
   - diltiazem prn for AF with RVR
   .
   # NSCLC: Confirmed on Bx. Pathology c/w poorly differentiated
   carcinoma, Heme-Onc, Rad-Onc following.  Mapped and has received all
   sessioins of XRT. [**Month (only) 11**] take several more days to see improvement.
   - plan for optimization of respiratory factors within the week and
   multi-team fam mtg re: goals of care after that point
   - Rad Onc says no need for repeat CT, will not change decision to
   extubate
   .
   # [**Last Name (un) 2406**]: Most likely etiology is CIN from dye load.  Creatinine now
   normal. Renal signed off.  Phenylephrine to assist with diuresis if
   hypotension recurs.
   - goal 2-4 L negative
   - renally dose meds
   - PM lytes during diuresis
   .
   # Hypotension/CHF:  TTE showed RV dysfunction and remarkable PA
   hypertension. Has compression of pulmonary arteries from
   lymphadenopathy. Has not required neo for past 24 hours, seems that
   diuresis has improved filling pressures and forward flow.
   ..
   #  Hypernatremia:  Currently 138 will stop free water boluses for the
   day.
   - cont current free water bolues with TFs and monitor Na
   .
   #  Right-sided chest pain- reproducible on palpation, likely
   musculoskeletal. Likely not related to ST elevations today
   -  Prior EKG
s negative, CE
s negative
   -  morphine PRN
   .
   # DM2:
   - ISS
   .
   # CODE: FULL
   # CONTACT:  [**Name (NI) 6555**], significant other
   # DISPO: ICU
   .
   ICU Care
   Nutrition: TFs
   Nutren Pulmonary (Full) - [**2139-2-2**] 12:00 AM 50 mL/hour
   Glycemic Control:
   .
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-3**] 05:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2139-02-05 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Noted to exhibit ST segment elevation on monitor this AM --> 12 lead
   ECG demonstrates ST-segment elevation, predominately inferior, but
   diffuse.
   Experienced right sided chest pain yesterday morning, reproducible by
   palpation.  ECG without change and cardiac enzymes not elevated.
   Pt. currently appears comfortable, notes only mild chest discomfort.
   Denies dyspnea.
   Cardiology consultatoin initiated, and arrangements for transfer to
   cardiac cath lab.  Pt. agrees.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-4**] 02:00 PM
   Morphine Sulfate - [**2139-2-4**] 03:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-5**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 97 (89 - 101) bpm
   BP: 110/90(96) {70/54(64) - 145/116(126)} mmHg
   RR: 20 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,535 mL
                                                                  1,183 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    545 mL
   IVF:
                                                                    532 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  4,510 mL
                                                                  2,490 mL
   Urine:
                                                                  4,510 mL
                                                                  2,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -975 mL
                                                                 -1,307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (348 - 399) mL
   PS : 14 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///46/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   366 K/uL
   142 mg/dL
   1.1 mg/dL
   46 mEq/L
   3.4 mEq/L
   49 mg/dL
   88 mEq/L
   138 mEq/L
   28.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2139-2-2**]  03:23 AM
                             [**2139-2-2**]  02:32 PM
                             [**2139-2-2**]  10:17 PM
                             [**2139-2-3**]  03:42 AM
                             [**2139-2-3**]  02:16 PM
                             [**2139-2-3**]  02:32 PM
                             [**2139-2-4**]  03:28 AM
                             [**2139-2-4**]  03:41 AM
                             [**2139-2-4**]  05:29 PM
                             [**2139-2-5**]  05:20 AM
   WBC
   6.2
   6.3
   7.2
   8.2
   Hct
   28.0
   27.9
   30.2
   28.4
   Plt
   [**Telephone/Fax (3) 10603**]66
   Cr
   1.0
   0.9
   1.0
   0.9
   1.0
   1.0
   1.1
   1.1
   TropT
   0.02
   0.03
   TCO2
   49
   53
   Glucose
   127
   151
   129
   132
   140
   137
   148
   142
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:36/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial.  Primary obstacles include
   pneumonia (RLL), obstructing lesion in remaining right lung (s/p
   stent), pulmonary hypertension, right heart failure, COPD.  Plan
   continue mechanical ventilation.  Continue empirical antimicrobials.
   Monitor ABG.  Hope to be able to work towards SBT and extubation
   trial.  Reduce sedation during daytime.
   ABNORMAL ECG -- ST segment elevation, although diffuse changes
   evident.  [**Month (only) 11**] represent pericarditis, but concern for active CAD.  As
   per Cardiology Consultation, plan to transport to cardiac cath lab for
   further evaluation.  IV heparin, ASA.
   HYPOTENSION -- in part attributed to right heart failure. Preload
   dependent.  Good response to net diuresis.  Plan to monitor BP,
   maintain MAP >60 mmHg.
   HYPERNATREMIA -- Recurrent, attributed to diuresis.  Continue to
   provide free water.  Monitror serial Na+.
   HYPOKALEMIA -- attributed to diuresis.  Aggressively replete to K>4.0
   METABOLIC ALKALOSIS -- attributed to vigorous net diuresis.
   Aggresively replete Cl (as KCl).
   LUNG CANCER
 Non-small cell.  Poor prognosis.  Local XRT to right
   hilum completed.  Oncology plans to consider chemotherapy if able to
   successfully extubate.  Consider repeat chest imaging (CT).
   PULMONARY HYPERTENSION -- severe, attributed to s/p left pneumonectomy
   and now with tumor involvement of right pulmonary artery.
   RENAL FAILURE, ACUTE -- iv contrast dye induced.  Much improved.
   Continue plans for active net diuresis.  Renal dose all meds.  Monitor
   BUN, creatinine.
   FLUIDS
 now intravascularly volume replete, total body overload.  Plan
   to continue net diuresis to mobilize fluids --> lasix drip (and
   vasopressor as needed).  Aim for goal ~2 L net negative.
   NIDDM
 maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-4**] 11:01 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-06 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SHEATH - START [**2139-2-5**] 01:51 PM
 SHEATH - START [**2139-2-5**] 01:53 PM
 SHEATH - STOP [**2139-2-5**] 04:35 PM
 SHEATH - STOP [**2139-2-5**] 04:35 PM
   Post-cath check good
   Patient was chest pain free since arriving at CCU
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2139-2-5**] 11:08 AM
   Famotidine (Pepcid) - [**2139-2-5**] 08:41 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-6**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-6**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 98 (89 - 106) bpm
   BP: 70/56(62) {70/45(58) - 133/126(164)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,149 mL
                                                                    347 mL
   PO:
             TF:
                                                                    284 mL
                                                                    229 mL
   IVF:
                                                                    445 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  3,916 mL
                                                                    625 mL
   Urine:
                                                                  3,916 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,767 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 314 (314 - 410) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.46/59/150/44/15
   Ve: 9.1 L/min
   PaO2 / FiO2: 375
   Physical Examination
   GENERAL: NAD. Intubated. Follows commands. Complains of some sore
   throat, he thinks it is from the radiation.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS: decreased BS in the left lung fields when auscultating from
   anterior, no crackles in right lung base
   ABDOMEN: Soft, NTND. No HSM or tenderness.  No abdominial bruits.
   EXTREMITIES: No c/c/e.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   339 K/uL
   9.0 g/dL
   138 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.5 mEq/L
   47mg/dL
   95 mEq/L
   145 mEq/L
   27.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2139-2-3**]  02:16 PM
                             [**2139-2-3**]  02:32 PM
                             [**2139-2-4**]  03:28 AM
                             [**2139-2-4**]  03:41 AM
                             [**2139-2-4**]  05:29 PM
                             [**2139-2-5**]  05:20 AM
                             [**2139-2-5**]  12:30 PM
                             [**2139-2-5**]  02:55 PM
                             [**2139-2-5**]  03:02 PM
                             [**2139-2-6**]  05:39 AM
   WBC
   7.2
   8.2
   7.0
   Hct
   30.2
   28.4
   32
   27.5
   Plt
   [**Telephone/Fax (3) 10620**]
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   TropT
   0.02
   0.03
   0.03
   TCO2
   49
   53
   50
   43
   43
   Glucose
   140
   137
   148
   142
   123
   Other labs:
   Ca: 8.5 Mg: 2.0 P: 3.9
   CK: 22
   MB: 1
   Trop-T: 0.03
   Assessment and Plan
   64 y/o M with NSCLC, with respiratory failure, with diffuse ST segment
   elevations on ECG and clean coronaries, likely secondary to
   pericarditis.
   .
   # Pericarditis:  Given territorial (inferolateral) distribution of
   STEs, there was appropriate concern for STEMI in this patient.  Patient
   was started on Heparin bolus and drip, started on high dose
   Atorvastatin, ASA 325mg, Plavix 600mg, and BBs.  On further review of
   EKG, patient had diffuse PR depressions and PR elevation in AVR.  Cath
   showed clean coronaries.  Pericarditis related to either XRT versus
   Pericardial mets is most likely. Echo with no effusion.  Another
   possibility is paradoxical embolus to coronary arteries, but on cath,
   no
haziness
 was seen in the coronary arteries that would be
   consistent with paradoxical emboli.  Patient has been chest pain-free
   since arriving at CCU.
   - f/u EKG from this morning
   - No treatment at this time as patient has no chest discomfort
   - morphine prn pain
   - can initiate indomethacin or colchicine for pericarditis if pt
   symptomatic
   - hold off on bubble study since the likelihood of paradoxical emboli
   is low
   .
   #. Pump:  Euvolemic on exam.  Preserved systolic function, RV free wall
   HK.  Patient had been actively diursed in [**Hospital Unit Name 10**], however minimal
   evidence of volume overload.  Patient 13L pos for LOS.  Given dye load
   and renal failure, hold on further diuresis. Furthermore, labs are
   consistent with contraction alkalosis.
   - continue to monitor volume status
   - hold off on diuresis for now
   .
   # Rhythm:  h/o AFib w/ RVR in MICU.  Currently in NSR.
   - Monitor on tele
   - no anticoagulation necessary
   .
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. Known partial occlusion of RUL
   bronchus from NSCLC. Now s/p stent to bronchus intermedius. Failure
   likely [**2-10**] NSCLC and VAP.  Currently stable on CPAP with PEEP of 5.
   Barriers to extubation are copious secretions.  Currently patient does
   not appear volume overloaded, and heart issue unlikely playing a major
   role in the respiratory failure.
   - no diuresis for now
   - cont PSV trials, daily RSBI
   - nebulizer standing and PRN
   - will check ABG daily
   .
   # DM2:
   - ISS
   .
   # Goals of Care:   Patient is s/p XRT, which did not have intended
   effect of patient being better substrate for extubation.  Plan is for
   home hospice, with possible extubation once transferred home. Patient
   has repeatedly refused trach.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2139-2-6**] 03:12 AM 50 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  H2 blocker (famotidine)
   VAP:  bundle
   Comments:
   Communication:  Comments: Queen, significant other.  [**Telephone/Fax (1) 10295**]
   Code status: Full code
   Disposition: will transfer back to [**Hospital Unit Name 10**] for continued management of
   respiratory status and possible extubation
   ------ Protected Section ------
   Attending
s Note: 08.00hrs
   Agree with Dr.[**First Name (STitle) 2589**]
s note.
   Reviewed data and examinedv Pt.
   No cardiac issues and pt can be transferred to Med service.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2139-2-7**] 12:15 ------

2139-02-07 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - No 24 hour events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-7**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 95 (93 - 106) bpm
   BP: 98/56(70) {83/49(60) - 138/119(126)} mmHg
   RR: 16 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,719 mL
                                                                    532 mL
   PO:
             TF:
                                                                  1,149 mL
                                                                    346 mL
   IVF:
                                                                    480 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    550 mL
   Urine:
                                                                  1,985 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -266 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (243 - 381) mL
   PS : 14 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (2 digits) 1093**]: 104
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/60/155//16
   Ve: 8.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   GENERAL: NAD, intubated, alert, resting comfortably
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. No conjunctival injection
   NECK: JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS: scattered crackles anteriorly, not asculated posteriorly
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e.
   PULSES:  2+ DP bilaterally
   Labs / Radiology
   305 K/uL
   8.8 g/dL
   121 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.5 mEq/L
   47 mg/dL
   95 mEq/L
   145 mEq/L
   28.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2139-2-4**]  03:41 AM
                             [**2139-2-4**]  05:29 PM
                             [**2139-2-5**]  05:20 AM
                             [**2139-2-5**]  12:30 PM
                             [**2139-2-5**]  02:55 PM
                             [**2139-2-5**]  03:02 PM
                             [**2139-2-6**]  05:28 AM
                             [**2139-2-6**]  05:39 AM
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
   WBC
   8.2
   7.0
   6.7
   6.0
   Hct
   28.4
   32
   27.5
   27.5
   28.4
   Plt
   366
   343
   339
   305
   Cr
   1.1
   1.1
   1.1
   0.9
   TropT
   0.03
   0.03
   0.03
   TCO2
   53
   50
   43
   43
   44
   Glucose
   148
   142
   123
   138
   121
   Other labs: PT / PTT / INR:13.4/31.7/1.1, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   64 y/o M with NSCLC, with respiratory failure, with diffuse ST segment
   elevations on ECG and clean coronaries, likely secondary to
   pericarditis.
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. He has a known partial
   occlusion of RUL bronchus from NSCLC and is s/p stent to bronchus
   intermedius. Failure likely multifactorial, [**2-10**] NSCLC, VAP, and with
   severe PA HTN. Currently stable on CPAP with PEEP of 5. Barriers to
   extubation are copious secretions which are improving and may have had
   some improvement in tumor burden after XRT
   - cont PSV trials, daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to wean with ultimate goal
   of extubation to allow patient to return home for palliative care
   - nebulizer standing and PRN
   - will check ABG daily , daily [**First Name3 (LF) 1093**]
   # Metabolic Alkalosis/Respiratory Acidosis:  Mixed picture. Gas this
   morning 7.47/59/150/43, mixed picture likely from hypoxic respiratory
   failure causing acidosis and contraction alkalosis from aggressive
   diuresis.
   - trend gases
   # Non-Small Cell Lung CA:  Imaging and bx as above.  S/p XRT treatment
   without significant effect, expect to see effect 7-12 days post-tx per
   rad-onc.
   - consider re-scanning next week to evaluate effect of XRT
   - onc following, appreciate recs
   # Pericarditis: Clean cath in setting of STE c/w pericarditis.  Patient
   is currently pain free on no pain medications though written prn.
   Unclear what cause it, could be viral though no pain versus XRT related
   vs mets.
   - continue prn pain medication including NSAIDs though asx
   - watch for bleeding as pt received plavix bolus and heparin gtt, T & S
   active, reordered for [**2-8**] when it expires
   - tele
   #. Hypervolemia:  Had been diuresed aggressively, now appears euvolemic
   on exam. Preserved systolic function, RV free wall HK on echo.  Patient
   had been actively diursed in [**Hospital Unit Name 10**], however minimal evidence of volume
   overload currently. Patient 13L pos for LOS. Given dye load and renal
   failure, hold on further diuresis.
   - Monitor
   - d/c metolazone
   # Anemia:  likely [**2-10**] chronic disease, at baseline
   - trend
   - T & S active
   # AFib:  w/ RVR in MICU. Currently in NSR.
   - Monitor on tele
   # Goals of Care: Patient is s/p XRT, which did not have intended effect
   of patient being better substrate for extubation however, patient has
   been tolerating CPAP well with PS of 14 and PEEP of 5.  Will continue
   to try to wean as above with goal to extubate to allow patient to
   return home.
   - Pall care came today to see but patient was very focused on
   # DM2:
   - ISS
   # PPX:  H2 blocker, heparin sq, morphine for pain, VAP bundle, tube
   feeds
   # CODE: FULL
   # CONTACT: [**Name (NI) 6555**], significant other. [**Telephone/Fax (1) 10295**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-02-08 08:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - weaned to 5/0 on vent, did well, plan to extubate 10am tomorrow per
   patient.
   - gave 1 liter D5W for free water
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-8**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 98 (93 - 99) bpm
   BP: 114/72(88) {92/55(68) - 147/132(283)} mmHg
   RR: 31 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,354 mL
                                                                  1,189 mL
   PO:
             TF:
                                                                  1,214 mL
                                                                    333 mL
   IVF:
                                                                    870 mL
                                                                    827 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    630 mL
   Urine:
                                                                  1,810 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    544 mL
                                                                    559 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (314 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (2 digits) 1093**]: 67
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/60/140/40/12
   Ve: 11.1 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GENERAL: NAD, intubated, alert, resting comfortably
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. No conjunctival injection
   NECK: JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS: scattered crackles anteriorly, not asculated posteriorly
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e.
   PULSES:  2+ DP bilaterally
   Labs / Radiology
   347 K/uL
   9.0 g/dL
   165 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.9 mEq/L
   38 mg/dL
   103 mEq/L
   149 mEq/L
   28.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2139-2-6**]  05:28 AM
                             [**2139-2-6**]  05:39 AM
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
                             [**2139-2-7**]  12:00 PM
                             [**2139-2-7**]  12:43 PM
                             [**2139-2-7**]  03:21 PM
                             [**2139-2-7**]  05:00 PM
                             [**2139-2-8**]  06:16 AM
                             [**2139-2-8**]  06:38 AM
   WBC
   6.7
   6.0
   6.1
   Hct
   27.5
   28.4
   28.9
   Plt
   [**Telephone/Fax (3) 10659**]
   Cr
   0.9
   0.9
   0.8
   TropT
   0.03
   TCO2
   43
   44
   42
   41
   40
   Glucose
   138
   128
   121
   172
   197
   165
   Other labs: PT / PTT / INR:13.4/31.7/1.1, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR: Pending
   Microbiology: Nothing New
   Assessment and Plan
   64 y/o M with NSCLC, with respiratory failure, with diffuse ST segment
   elevations on ECG and clean coronaries, likely secondary to
   pericarditis.
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. He has a known partial
   occlusion of RUL bronchus from NSCLC and is s/p stent to bronchus
   intermedius. Failure likely multifactorial, [**2-10**] NSCLC, VAP, and with
   severe PA HTN. Currently stable on CPAP with PEEP of 5. Barriers to
   extubation are copious secretions which are improving and may have had
   some improvement in tumor burden after XRT
   - cont PSV trials, daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to wean vent as tolerated
   - will touch base with IP over weekend/Monday regarding possible need
   for PEG/trach
   - nebulizer standing and PRN
   - will check ABG daily , daily [**First Name3 (LF) 1093**]
   # Non-Small Cell Lung CA:  Imaging and bx as above.  S/p XRT treatment
   without significant effect, expect to see effect 7-12 days post-tx per
   rad-onc.
   - consider re-scanning next week to evaluate effect of XRT
   - onc following, appreciate recs
   # Pericarditis: Clean cath in setting of STE c/w pericarditis.  Patient
   is currently pain free on no pain medications though written prn.
   Unclear what cause it, could be viral though no pain versus XRT related
   vs mets.
   - continue prn pain medication including NSAIDs though asx
   - continue tele
   #. Hypervolemia:  Had been diuresed aggressively, now appears euvolemic
   on exam. Preserved systolic function, RV free wall HK on echo.  Patient
   had been actively diursed in [**Hospital Unit Name 10**], however minimal evidence of volume
   overload currently. Patient 13L pos for LOS. Given dye load and renal
   failure, hold on further diuresis.
   - continue to monitor
   # Anemia:  likely [**2-10**] chronic disease, at baseline
   - trend
   - T&S active
   # AFib:  w/ RVR in MICU. Currently in NSR.
   - continue tele
   # Goals of Care: Patient is s/p XRT, which did not have intended effect
   of patient being better substrate for extubation however, patient has
   been tolerating CPAP well with PS of 14 and PEEP of 5.  Will continue
   to try to wean as above with goal to extubate to allow patient to
   return home.
   - Pall care came today to see but patient was very focused on continued
   treatment
   # DM2:
   - ISS
   # PPX:  H2 blocker, heparin sq, morphine for pain, VAP bundle, tube
   feeds
   # CODE: FULL
   # CONTACT: [**Name (NI) 6555**], significant other. [**Telephone/Fax (1) 10295**]
   # DISPO: ICU
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  H2 Blocker
   VAP:  Per Protocol
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now.

2139-02-08 10:17:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, lung cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -no events
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-8**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 98 (93 - 99) bpm
   BP: 114/72(88) {92/56(70) - 147/132(283)} mmHg
   RR: 31 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 98.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,354 mL
                                                                  1,359 mL
   PO:
             TF:
                                                                  1,214 mL
                                                                    333 mL
   IVF:
                                                                    870 mL
                                                                    997 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    630 mL
   Urine:
                                                                  1,810 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    544 mL
                                                                    729 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 400 (314 - 540) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/60/140/40/12
   Ve: 9.8 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right, Absent : left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   347 K/uL
   165 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.9 mEq/L
   38 mg/dL
   103 mEq/L
   149 mEq/L
   28.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2139-2-6**]  05:28 AM
                             [**2139-2-6**]  05:39 AM
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
                             [**2139-2-7**]  12:00 PM
                             [**2139-2-7**]  12:43 PM
                             [**2139-2-7**]  03:21 PM
                             [**2139-2-7**]  05:00 PM
                             [**2139-2-8**]  06:16 AM
                             [**2139-2-8**]  06:38 AM
   WBC
   6.7
   6.0
   6.1
   Hct
   27.5
   28.4
   28.9
   Plt
   [**Telephone/Fax (3) 10659**]
   Cr
   0.9
   0.9
   0.8
   TropT
   0.03
   TCO2
   43
   44
   42
   41
   40
   Glucose
   138
   128
   121
   172
   197
   165
   Other labs: PT / PTT / INR:13.4/31.7/1.1, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -s/p distant Lt pneumonectomy
   -now with newly dx hilar NSCLCA  with collapse of RUL, narrowing of
   bronchus intermedius requiring stent
   -s/p course of XRT to above in attempt to enable extubation
   -check RSBI
   -plan for extubation today.  Pt discussed with his HCP [**Name (NI) 6555**].  We
   discussed goals of care together during rounds.  Pt does NOT want to be
   reintubated if he fails extubation
 CANCER (MALIGNANT NEOPLASM), LUNG
   -s/p XRT
   -not surgical candidate given location and previous Lt pneumonectomy
 PNEUMONIA, OTHER
   -secretions minimal
   -appears to be resolved
 Pericarditis:
   - clean cath in setting of STE c/w pericarditis
   -etiology unclear
   -currently pain free
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Creat 0.9
 HYPERNATREMIA (HIGH SODIUM)
   -follow. fH20 as needed
 ATRIAL FIBRILLATION (AFIB)
   -resolved, in NSR presently
 DIABETES MELLITUS (DM), TYPE II
   -SSRI / [**Name (NI) 10661**]
 Pt made DNR/DNI based on discussion above.
   Remainder of plan per ICU team notes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2139-02-09 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2139-2-8**] 10:30 AM
 ARTERIAL LINE - STOP [**2139-2-8**] 01:34 PM
   - Discussed if he would like re-intubation if fails extubation. He
   stated that he would like CMO, not re-intubation.
   - Fortunately did well after extubation.
   - Restarted diet - he watched the Celtics game with his wife and is
   looking forward to going home.
   - No evidence of tiring out off the vent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-9**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 102 (90 - 103) bpm
   BP: 105/65(75) {96/61(70) - 127/79(88)} mmHg
   RR: 30 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.4 kg (admission): 98.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,718 mL
                  PO:
                                                                    260 mL
                  TF:
                                                                    428 mL
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    570 mL
   Urine:
                                                                  2,105 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD, alert, resting comfortably but grumpy
   HEENT: Sclera anicteric. PERRL, EOMI.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS: scattered crackles anteriorly on right, not asculated
   posteriorly. No breath sounds on left
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominal bruits.
   EXTREMITIES: No c/c/e.
   PULSES:  2+ DP bilaterally
   Labs / Radiology
   347 K/uL
   9.0 g/dL
   165 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.9 mEq/L
   38 mg/dL
   103 mEq/L
   149 mEq/L
   28.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2139-2-6**]  05:28 AM
                             [**2139-2-6**]  05:39 AM
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
                             [**2139-2-7**]  12:00 PM
                             [**2139-2-7**]  12:43 PM
                             [**2139-2-7**]  03:21 PM
                             [**2139-2-7**]  05:00 PM
                             [**2139-2-8**]  06:16 AM
                             [**2139-2-8**]  06:38 AM
   WBC
   6.7
   6.0
   6.1
   Hct
   27.5
   28.4
   28.9
   Plt
   [**Telephone/Fax (3) 10659**]
   Cr
   0.9
   0.9
   0.8
   TropT
   0.03
   TCO2
   43
   44
   42
   41
   40
   Glucose
   138
   128
   121
   172
   197
   165
   Other labs: PT / PTT / INR:13.4/31.7/1.1, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   64 y/o M with NSCLC, with respiratory failure, with diffuse ST segment
   elevations on ECG and clean coronaries, likely secondary to
   pericarditis.
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. He has a known partial
   occlusion of RUL bronchus from NSCLC and is s/p stent to bronchus
   intermedius. Failure likely multifactorial, [**2-10**] NSCLC, ?VAP, and with
   severe PA HTN. Yesterday patient did well on 5/0.  RSBI 60 yesterday
   and patient extubated well.Patient does not want to be re-intubated.
   - Nebulizer standing and PRN
   # Non-Small Cell Lung CA:  Imaging and bx as above.  S/p XRT treatment
   without significant effect, expect to see effect 7-12 days post-tx per
   rad-onc.
   - Consider re-scanning next week to evaluate effect of XRT
   - Oncology following, appreciate recs
   # Pericarditis: Clean cath in setting of STE c/w pericarditis.  Stable,
   no pain.
   - cContinue prn pain medication including NSAIDs although asymptomatic
   currently
   - Continue telemetry for now
   # Anemia:  likely [**2-10**] chronic disease, at baseline and stable
   - Trend
   - T&S active
   # AFib:  w/ RVR in MICU. Currently in NSR although sinus tachycardia
   - Continue telemetry
   # Goals of Care: Extubated yesterday without issues. Patient would not
   like to be reintubated and would like only comfort measures if he
   fails
   - Palliative care to see patient today to discuss need to call-out to
   regular floor or direct in-patient vs. outpatient hospice care
   # DM2:
   - ISS
   # PPX:  H2 blocker, heparin sq, morphine for pain, VAP bundle, tube
   feeds
   # CODE: FULL
   # CONTACT: [**Name (NI) 6555**], significant other. [**Telephone/Fax (1) 10295**]
   # DISPO: ICU
   ICU Care
   Nutrition: Regular oral
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Arterial Line - [**2139-1-28**] 10:38 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  H2 Blocker
   VAP:  Per Protocol
   Communication:  Comments:
   Code status: Full code, Do Not Reintubate
   Disposition: ICU for now.

2139-02-09 13:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Maintaining himself off ventilator
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2139-2-8**] 10:30 AM
 ARTERIAL LINE - STOP [**2139-2-8**] 01:34 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-9**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**1-10**] Minimal
   Pain location: chest
   Flowsheet Data as of  [**2139-2-9**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 93 (90 - 105) bpm
   BP: 108/71(79) {94/57(66) - 127/79(88)} mmHg
   RR: 0 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.4 kg (admission): 98.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,718 mL
                                                                    200 mL
   PO:
                                                                    260 mL
                                                                    200 mL
   TF:
                                                                    428 mL
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    710 mL
   Urine:
                                                                  2,105 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric, Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , Dullness : L),
   (Breath Sounds: No(t) Clear : , Crackles : R, No(t) Bronchial: ,
   Wheezes : R, No(t) Diminished: , Absent : L, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   329 K/uL
   176
   0.8 mg/dL
   35 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   145 mEq/L
   30.2 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
                             [**2139-2-7**]  12:00 PM
                             [**2139-2-7**]  12:43 PM
                             [**2139-2-7**]  03:21 PM
                             [**2139-2-7**]  05:00 PM
                             [**2139-2-8**]  06:16 AM
                             [**2139-2-8**]  06:38 AM
                             [**2139-2-9**]  08:57 AM
                             [**2139-2-9**]  12:00 PM
   WBC
   6.0
   6.1
   6.2
   Hct
   28.4
   28.9
   30.2
   Plt
   [**Telephone/Fax (3) 10686**]
   Cr
   0.9
   0.8
   0.8
   TCO2
   44
   42
   41
   40
   Glucose
   128
   121
   172
   197
   165
   174
   176
   Other labs: PT / PTT / INR:13.5/66.0/1.2, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2,
   Differential-Neuts:75.4 %, Lymph:14.1 %, Mono:4.8 %, Eos:5.4 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 CHEST PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 HYPERNATREMIA (HIGH SODIUM)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
   He is awake and states he is comfortable off the ventilator. He is
   aware of his prognosis and simply wishes to go home. We will speak with
   Palliative Care immediately and see if that is possible, and if so try
   to arrange as soon as possible. He is not in pain
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :D/C Home
   Total time spent: 35 minutes

2139-02-10 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pall care
   - no AM labs, no more needle sticks
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-9**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-10**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 95 (93 - 109) bpm
   BP: 104/70(77) {92/53(65) - 110/71(80)} mmHg
   RR: 24 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.4 kg (admission): 98.4 kg
   Height: 70 Inch
                  Total In:
                                                                    800 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    150 mL
   Urine:
                                                                  1,560 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   329 K/uL
   9.5 g/dL
   176
   0.8 mg/dL
   35 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   145 mEq/L
   30.2 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
                             [**2139-2-7**]  12:00 PM
                             [**2139-2-7**]  12:43 PM
                             [**2139-2-7**]  03:21 PM
                             [**2139-2-7**]  05:00 PM
                             [**2139-2-8**]  06:16 AM
                             [**2139-2-8**]  06:38 AM
                             [**2139-2-9**]  08:57 AM
                             [**2139-2-9**]  12:00 PM
   WBC
   6.0
   6.1
   6.2
   Hct
   28.4
   28.9
   30.2
   Plt
   [**Telephone/Fax (3) 10686**]
   Cr
   0.9
   0.8
   0.8
   TCO2
   44
   42
   41
   40
   Glucose
   128
   121
   172
   197
   165
   174
   176
   Other labs: PT / PTT / INR:13.5/66.0/1.2, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2,
   Differential-Neuts:75.4 %, Lymph:14.1 %, Mono:4.8 %, Eos:5.4 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   64 y/o M with NSCLC, with respiratory failure, with diffuse ST segment
   elevations on ECG and clean coronaries, likely secondary to
   pericarditis.
   # Hypoxic Respiratory failure: Pt was intubated in setting of
   bronchoscopy, biopsy, and desaturation. He has a known partial
   occlusion of RUL bronchus from NSCLC and is s/p stent to bronchus
   intermedius. Failure likely multifactorial, [**2-10**] NSCLC, ?VAP, and with
   severe PA HTN. Yesterday patient did well on 5/0.  RSBI 60 yesterday
   and patient extubated well.Patient does not want to be re-intubated.
   - Nebulizer standing and PRN
   # Non-Small Cell Lung CA:  Imaging and bx as above.  S/p XRT treatment
   without significant effect, expect to see effect 7-12 days post-tx per
   rad-onc.
   - Consider re-scanning next week to evaluate effect of XRT
   - Oncology following, appreciate recs
   # Pericarditis: Clean cath in setting of STE c/w pericarditis.  Stable,
   no pain.
   - cContinue prn pain medication including NSAIDs although asymptomatic
   currently
   - Continue telemetry for now
   # Anemia:  likely [**2-10**] chronic disease, at baseline and stable
   - Trend
   - T&S active
   # AFib:  w/ RVR in MICU. Currently in NSR although sinus tachycardia
   - Continue telemetry
   # Goals of Care: Extubated yesterday without issues. Patient would not
   like to be reintubated and would like only comfort measures if he
   fails
   - Palliative care to see patient today to discuss need to call-out to
   regular floor or direct in-patient vs. outpatient hospice care
   # DM2:
   - ISS
   # PPX:  H2 blocker, heparin sq, morphine for pain, VAP bundle, tube
   feeds
   # CODE: FULL
   # CONTACT: [**Name (NI) 6555**], significant other. [**Telephone/Fax (1) 10295**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-02-10 14:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No pain or SOB
   24 Hour Events:
   desat with any movement
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**1-10**] Minimal
   Pain location: sl chest pain overnight
   Flowsheet Data as of  [**2139-2-10**] 02:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 104 (93 - 109) bpm
   BP: 112/63(76) {92/53(65) - 112/71(80)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.4 kg (admission): 98.4 kg
   Height: 70 Inch
                  Total In:
                                                                    800 mL
                                                                    400 mL
   PO:
                                                                    800 mL
                                                                    400 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    450 mL
   Urine:
                                                                  1,560 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Distant, Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , Absent : on L, No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   329 K/uL
   176
   0.8 mg/dL
   35 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   145 mEq/L
   30.2 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-2-7**]  05:05 AM
                             [**2139-2-7**]  06:38 AM
                             [**2139-2-7**]  12:00 PM
                             [**2139-2-7**]  12:43 PM
                             [**2139-2-7**]  03:21 PM
                             [**2139-2-7**]  05:00 PM
                             [**2139-2-8**]  06:16 AM
                             [**2139-2-8**]  06:38 AM
                             [**2139-2-9**]  08:57 AM
                             [**2139-2-9**]  12:00 PM
   WBC
   6.0
   6.1
   6.2
   Hct
   28.4
   28.9
   30.2
   Plt
   [**Telephone/Fax (3) 10686**]
   Cr
   0.9
   0.8
   0.8
   TCO2
   44
   42
   41
   40
   Glucose
   128
   121
   172
   197
   165
   174
   176
   Other labs: PT / PTT / INR:13.5/66.0/1.2, CK / CKMB /
   Troponin-T:22/1/0.03, ALT / AST:[**7-29**], Alk Phos / T Bili:111/0.2,
   Differential-Neuts:75.4 %, Lymph:14.1 %, Mono:4.8 %, Eos:5.4 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 CHEST PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 HYPERNATREMIA (HIGH SODIUM)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
   He is aware of his prognosis and plan is for him to go to hospice
   today, if possible. He desaturates with any movement and he knows he
   may die in the next severe=[**Doctor Last Name **] days. He wishes to be comfortable but
   does not want any more aggressive care - and there is no therapy to
   offer.  Comfort is our only goal.
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-1-24**] 10:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes